2109-12-19 09:32:00 Physician Attending Progress Note
Chief Complaint: Unresponsive, respiratory failure, meningitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53yoF with history of remote gastric bypass; presented with one day of
   nausea/emesis progressing to unresponsiveness.  She was intubated at
   [**Location (un) 9927**] Hospital; head CT with diffuse cerebral edema, febrile
   to 104; given vancomycin/ceftriaxone/acyclovir and transferred to [**Hospital1 1**]
   ED.  She had difficulty oxygenating and evidence of ARDS
   radiographically, because of hypoxemia her PEEP was increased to 20 and
   she subsequently developed hypotension.  Initiated on pressors.  Neuro
   consult obtained recommending LP, however with concern for possible
   herniation LP was not performed.
   24 Hour Events:
   She received aggressive fluid resucitation with improvement in her BP
   (now off pressors) and improvement in lactate.  She was continued on
   her broad antibiotics with addition of oseltamivir and ampicillin.  She
   was placed on ARDSnet ventilation.  Arterial line was placed.  Urine
   output approximately 100ml/hr.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-19**] 12:00 AM
   Ampicillin - [**2109-12-19**] 06:34 AM
   Acyclovir - [**2109-12-19**] 08:00 AM
   Vancomycin - [**2109-12-19**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Vancomycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-19**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 124 (120 - 135) bpm
   BP: 124/82(91) {123/57(42) - 138/117(122)} mmHg
   RR: 31 (15 - 44) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   Mixed Venous O2% Sat: 35 - 35
   Total In:
                                                                    111 mL
                                                                  9,330 mL
   PO:
   TF:
   IVF:
                                                                    111 mL
                                                                  9,330 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                    780 mL
   Urine:
                                                                    125 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -14 mL
                                                                  8,550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 401 (401 - 401) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.26/37/95.[**Numeric Identifier **]/17/-9
   Ve: 11.6 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Gen: Does not respond to sternal rub or voice
   Chest: Clear lungs anteriorly and superior posterior fields
   CV: RRR, no significant murmur
   Abd: obese, NT/ND
   Ext: 1+ edema B
   Labs / Radiology
   11.6 g/dL
   273 K/uL
   172 mg/dL
   0.6 mg/dL
   17 mEq/L
   3.8 mEq/L
   12 mg/dL
   117 mEq/L
   143 mEq/L
   37.3 %
   21.6 K/uL
        [image002.jpg]
                            [**2109-12-18**]  09:50 PM
                            [**2109-12-18**]  11:00 PM
                            [**2109-12-19**]  12:15 AM
                            [**2109-12-19**]  02:09 AM
                            [**2109-12-19**]  04:17 AM
                            [**2109-12-19**]  04:27 AM
   WBC
   32.1
   29.5
   21.6
   Hct
   37.6
   38.0
   37.3
   Plt
   374
   401
   273
   Cr
   0.9
   1.0
   0.6
   TropT
   1.87
   1.67
   TCO2
   19
   16
   17
   Glucose
   [**Telephone/Fax (3) 9928**]
   Other labs: PT / PTT / INR:16.4/33.8/1.5, CK / CKMB /
   Troponin-T:679/71/1.67, ALT / AST:4/49, Alk Phos / T Bili:44/0.3,
   Amylase / Lipase:/10, Differential-Neuts:94.4 %, Lymph:4.3 %, Mono:0.7
   %, Eos:0.5 %, Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: CK: 431/MB 44
   Trop: 1.54
   Imaging: CXR: initial-bilateral interstitial opacities
   CXR: [**12-18**] - lower lung volumes, but improved opacities.
   Microbiology: Influenza: pending
   Assessment and Plan
   53yoF with fever, altered mental status; likely meningoencephalitis,
   sepsis, ARDS.
   1.  Meningoencephalitis:   Unclear source, and difficulty obtaining
   sample because of inability to perform LP.
   - covered broadly with
   vancomycin/ceftriaxone/ampicillin/oseltamivir/acyclovir.
   - Neuro to follow and discuss safety of LP as well as management of her
   cerebral edema.
   - Will discuss with neuro regarding possible ICP monitoring, possible
   neurosurgery consult.
   - await viral studies, cultures, etc.
   - replace central line
   2.  Hypoxemic respiratory failure from ARDS, suspect due to septic
   shock versus aspiration.  Ppl 31, Vt 7ml/kg, Rate 30; PEEP 18, FiO2 0.8
   - Limited ability to allow permissive hypercapnea in setting of
   cerebral edema.  Will follow ABG, consider decrease in Vt to 5 or
   6ml/kg if will tolerate from a CNS standpoint.
   - measure Ideal body weight
   - Esophageal balloon given borderline Ppl; PEEP titration
   3.       CV:  likely sepsis-myocardial dysfunction versus demand
   ischemia
   - will follow markers, EKG
   - TTE
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2109-12-18**] 11:58 PM
 replace central line
   20 Gauge - [**2109-12-18**] 11:59 PM
   Prophylaxis:
   DVT: Heparin prophylaxis
   Stress ulcer:  Famotidine
   VAP:  HOB, mouthcare/chlorhexidine
   Communication:  Will update family today, ICU consent signed
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  80 minutes CCT

2109-12-20 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2109-12-19**] 10:18 AM
 LUMBAR PUNCTURE - At [**2109-12-19**] 12:05 PM
 LUMBAR PUNCTURE - At [**2109-12-19**] 02:00 PM done in IR
 MULTI LUMEN - START [**2109-12-19**] 05:20 PM
 MULTI LUMEN - STOP [**2109-12-19**] 06:46 PM
 ARTERIAL LINE - START [**2109-12-19**] 08:37 PM
 ARTERIAL LINE - STOP [**2109-12-20**] 04:00 AM
 ARTERIAL LINE - START [**2109-12-20**] 04:31 AM
   Neuro attempted LP and failed, LP under fluoro with 7000 WBCs, 1000RBCS
   protein 645, glucose 34. Likely bacterial meningitis.
   Opening pressure 37, bolt placed by NS with initial ICP 25. Given
   mannitol and hypertonic saline with improvement to 13. q6 serum osms
   and sodium. Goal ICP<20, CPP>55, OSM>300 but <320, sodium around 150.
   Increased TV to 430 with goal of slight alkalosis.
   Curbside ID says no steroids, increased abx doses, full consult in am.
   Esophageal balloon placed. Weened FiO2 to 50% but didn't adjust PEEP as
   esophageal balloon indicated negative transpleural pressures.
   CEZ trending down, ordered TTE but unable to be done due to logisitics.
   At CT to r/o hematoma from bolt, catheter came out and needed
   replacement by NS.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-19**] 10:00 PM
   Acyclovir - [**2109-12-20**] 12:27 AM
   Ceftriaxone - [**2109-12-20**] 12:27 AM
   Ampicillin - [**2109-12-20**] 05:13 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-12-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-20**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 116 (113 - 130) bpm
   BP: 124/82(91) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (22 - 42) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    ICP: 10 (8 - 25) mmHg
   Total In:
                                                                 11,094 mL
                                                                  1,094 mL
   PO:
   TF:
   IVF:
                                                                 11,034 mL
                                                                  1,034 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                  1,400 mL
   Urine:
                                                                  2,680 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,414 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (401 - 431) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability, Elevated ICP
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 47.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/26/142/19/-2
   Ve: 12.9 L/min
   PaO2 / FiO2: 355
   Physical Examination
   GENERAL:  Sedated on vent
   HEENT:  Pupils 5->3mm w/ light, Multiple dental caries and erythematous
   gums.
   CARDIAC:  regular, tachycardic, distant heart sounds
   LUNG:  diffuse inspiratory and expiratory rhonchi.
   ABDOMEN:  Obese, well healed midline gastric bypass scar, LTCS scar,
   soft, ND
   EXT:  Cold, mottled skin
   DERM: No rashes.
   Labs / Radiology
   284 K/uL
   10.5 g/dL
   137 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.1 mEq/L
   12 mg/dL
   115 mEq/L
   143 mEq/L
   32.3 %
   18.6 K/uL
        [image002.jpg]
                            [**2109-12-18**]  11:00 PM
                            [**2109-12-19**]  12:15 AM
                            [**2109-12-19**]  02:09 AM
                            [**2109-12-19**]  04:17 AM
                            [**2109-12-19**]  04:27 AM
                            [**2109-12-19**]  11:44 AM
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
   WBC
   29.5
   21.6
   18.6
   Hct
   38.0
   37.3
   32.3
   Plt
   [**Telephone/Fax (3) 9948**]
   Cr
   1.0
   0.6
   0.6
   TropT
   1.67
   1.13
   1.00
   TCO2
   19
   16
   17
   18
   19
   19
   Glucose
   199
   172
   137
   Other labs: PT / PTT / INR:14.6/28.2/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:4/49, Alk Phos / T Bili:44/0.3,
   Amylase / Lipase:/10, Differential-Neuts:94.4 %, Lymph:4.3 %, Mono:0.7
   %, Eos:0.5 %, Lactic Acid:1.8 mmol/L, Albumin:3.4 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Imaging: Haed CT ([**12-19**], prelim): Redemonstration of diffuse sulcal
   effacement, in keeping with cerebral edema with minimal change and no
   intracranial hemorrhage.
   Microbiology: CSF:    GRAM STAIN (Final [**2109-12-19**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   CRYPTOCOCCAL ANTIGEN NOT DETECTED.
   FLU: Negative Ag on repeat sample
   Blood, urine pending.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema.
   #  Meningitis:  Likely bacterial meningitis given high protein, low
   glucose and turbid fluid.  Patient with cerebral edema requiring ICP
   monitor.
   - HOB elevation, manatol, hypenatremia, and hyperventilation to keep
   ICP < 20, pressors for CPP > 60; as currently well controlled, will
   stop hypertonic saline today, goal Na>140
   - Vanc/CTX/ampicillin/acyclovir
   - follow cultures
   - D/C oseltamivir as Ag negative
   - Neuro and ID recs
   # Hypotension: lactate elevated appears septic. Also contribution from
   PEEP. Will bolus to drive down lactate.
   - levophed if need to keep CPP > 60
   .
   #Hypoxia: Not in ARDS per CXR or P/F ratio.  Possible retrocardiac
   pneumonia.
   - influenza swab
   - follow cultures
   .
   # Tachycardia: Likely from adrenergic state.  Unlikely dry given normal
   UOP
   - follow UOP
   .
   #Elevated cardiac enzymes: No STEMI on EKG, most likely demand in the
   setting of sepsis.
   - Trend enzymes
   - TEE when possible
   - consider cath when stable
   .
   ICU Care
   Nutrition: TF today
   Glycemic Control: RISS
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-20**] 04:31 AM
   Prophylaxis:
   DVT: heparin SQ, stop SQ heparin on Sunday night in prep for bolt
   removal
   Stress ulcer: PPI
   VAP:  bundle
   Comments: bowel regimen
   Communication:  Husband [**Name (NI) 7337**] [**Telephone/Fax (1) 9918**], [**Name2 (NI) **] [**Telephone/Fax (1) 9919**], SW
   consult
   Code status: Full code
   Disposition:ICU

2109-12-20 10:19:00 Physician Attending Progress Note
Chief Complaint: Meningitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53F with morbid obesity; admitted with evidence of meningitis.
   24 Hour Events:
   Ms. [**Known lastname 9950**] [**Last Name (Titles) 3491**] LP yesterday with elevated opening pressure (37)
   and evidence of bacterial meningitis.  Neurosurgery placed bolt for ICP
   monitoring and originally ICP of 25.  Received mannitol and hypertonic
   saline given evidence of elevated ICP.  She had rapid improvement of
   ICP after mannitol.  CPP within acceptable range.  Also increased Vt to
   430ml to help prevent acidosis/compensation.  Esophageal balloon placed
   given high PEEP; but her oxygenation improved.
   Head CT post bolt without hemorrhage.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-19**] 10:00 PM
   Ceftriaxone - [**2109-12-20**] 12:27 AM
   Ampicillin - [**2109-12-20**] 05:13 AM
   Acyclovir - [**2109-12-20**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-12-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2109-12-20**] 08:00 AM
   Other medications:
   Oseltamivir, Mannitol q6h, Insulin sliding scale, 3% NaCL at 30ml/hr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-20**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 113 (108 - 130) bpm
   BP: 124/82(91) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (5 - 42) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   ICP: 15 (8 - 25) mmHg
   Total In:
                                                                 11,094 mL
                                                                  1,385 mL
   PO:
   TF:
   IVF:
                                                                 11,034 mL
                                                                  1,325 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                  1,820 mL
   Urine:
                                                                  2,680 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,414 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (401 - 431) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability, Elevated ICP
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 43 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/26/142/19/-2
   Ve: 12.8 L/min
   PaO2 / FiO2: 355
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  warm, well-perfused, no edema
   Labs / Radiology
   10.5 g/dL
   284 K/uL
   137 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.1 mEq/L
   12 mg/dL
   115 mEq/L
   143 mEq/L
   32.3 %
   18.6 K/uL
        [image002.jpg]
                            [**2109-12-18**]  11:00 PM
                            [**2109-12-19**]  12:15 AM
                            [**2109-12-19**]  02:09 AM
                            [**2109-12-19**]  04:17 AM
                            [**2109-12-19**]  04:27 AM
                            [**2109-12-19**]  11:44 AM
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
   WBC
   29.5
   21.6
   18.6
   Hct
   38.0
   37.3
   32.3
   Plt
   [**Telephone/Fax (3) 9948**]
   Cr
   1.0
   0.6
   0.6
   TropT
   1.67
   1.13
   1.00
   TCO2
   19
   16
   17
   18
   19
   19
   Glucose
   199
   172
   137
   Other labs: PT / PTT / INR:14.6/28.2/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:4/49, Alk Phos / T Bili:44/0.3,
   Amylase / Lipase:/10, Differential-Neuts:94.4 %, Lymph:4.3 %, Mono:0.7
   %, Eos:0.5 %, Lactic Acid:1.8 mmol/L, Albumin:3.4 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Fluid analysis / Other labs: CSF: 7000WBCs, 90% polys
   Serum Osm 309
   7.43/26/142
   Imaging: Head CT: sucal effacement consistent with cerebral edema
   Microbiology: Flu negative
   Crypto negative
   Blood/urine: pending
   CSF: pending, gram stain 3+ polys no organisms
   Assessment and Plan
   53yoF with likely bacterial meningitis leading to cerebral edema.
   1.  Cerebral edema: evidence of increased ICP improved with mannitol
   - Will discuss with neuro regarding discontinuation of hypertonic
   versus Na goal of 150 and being able to stop the mannitol
   - ICP < 20, CPP >50
   - continue with normalization of ABG; PaCO2 < 30, pH normal to mildly
   alkalemic
   2.  Meningitis:
   - continue broad spectrum antibiotics
   - ID consult pending
   - No indication for steroids at this time
   - Vancomycin/ceftriaxone/ampicillin/acyclovir; stop oseltamivir
   - f/u cultures from blood, sputum, urine
   3.  Respiratory Failure:  Intubated in setting of altered mental
   status, instability, hypoxemia.
   -  Can wean PEEP to 15 and follow closely for derecruitment
   -  d/c esophageal balloon
   -  continue current Vt and RR; mainatin PaCO2 25-30
   4.  Cardiac:  Cardiac markers have peaked
   - Check TTE today given initial picture with possible pulmonary edema.
   - No need to repeat cardiac markers; suspect sepsis-myocardial
   dysfunction
   5.  Hypotension: now resolved, off pressors; adequate urine output,
   lactate resolved
   - pressors prn to keep CPP > 50
   ICU Care
   Nutrition: Tube
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-20**] 04:31 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:  H2
   VAP:  HOB/chlorhexidine/mouthcare
   Communication:  family has been updated (son [**Name (NI) **], husband [**Doctor First Name 7337**]
   [**Name2 (NI) 129**] status: Full code
   Disposition :  ICU, critically ill
   Total time spent:  50 minutes

2109-12-21 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2109-12-20**] 11:27 AM
   ECHO
 BLOOD CULTURED - At [**2109-12-20**] 05:33 PM
 FEVER - 102.5
F - [**2109-12-20**] 04:00 PM
   ICPs stable around 10.  Stopped hypertonic saline and manatol.  CPP
   stable off pressors.
   Weaned PEEP
   Vanc trough supertheraputic->held evening dose and changed to [**Hospital1 **]
   ID recommended Vanc goal ~20
   Neuro recommended LP on monday
   Sodium continued to climb, started NS @125
   Nutrition: holding on tube feeds
   A-line change over wire
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-20**] 02:00 PM
   Acyclovir - [**2109-12-20**] 11:50 PM
   Ceftriaxone - [**2109-12-20**] 11:51 PM
   Ampicillin - [**2109-12-21**] 05:52 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-12-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2109-12-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-21**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.4
C (101.1
   HR: 112 (104 - 130) bpm
   BP: 126/79(89) {92/60(71) - 126/87(95)} mmHg
   RR: 12 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    ICP: 7 (4 - 18) mmHg
   Total In:
                                                                  3,696 mL
                                                                  1,380 mL
   PO:
   TF:
   IVF:
                                                                  3,576 mL
                                                                  1,380 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                    340 mL
   Urine:
                                                                  3,710 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -14 mL
                                                                  1,040 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.47/28/133//-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 332
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   9.6 g/dL
   137 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.1 mEq/L
   12 mg/dL
   115 mEq/L
   150 mEq/L
   30.6 %
   14.7 K/uL
        [image002.jpg]
                            [**2109-12-19**]  02:09 AM
                            [**2109-12-19**]  04:17 AM
                            [**2109-12-19**]  04:27 AM
                            [**2109-12-19**]  11:44 AM
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
   WBC
   21.6
   18.6
   14.7
   Hct
   37.3
   32.3
   30.6
   Plt
   273
   284
   216
   Cr
   0.6
   0.6
   TropT
   1.67
   1.13
   1.00
   TCO2
   16
   17
   18
   19
   19
   21
   Glucose
   172
   137
   Other labs: PT / PTT / INR:14.6/28.2/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:4/49, Alk Phos / T Bili:44/0.3,
   Amylase / Lipase:/10, Differential-Neuts:94.4 %, Lymph:4.3 %, Mono:0.7
   %, Eos:0.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment/Plan
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema.
   #  Meningitis:  Likely bacterial meningitis given high protein, low
   glucose and turbid fluid.  Patient with cerebral edema requiring ICP
   monitor.
   - HOB elevation, manatol, hypenatremia, and hyperventilation to keep
   ICP < 20, pressors for CPP > 60; as currently well controlled, will
   stop hypertonic saline today, goal Na>140
   - Vanc/CTX/ampicillin/acyclovir
   - follow cultures
   - D/C oseltamivir as Ag negative
   - Neuro and ID recs
   # Hypotension: lactate elevated appears septic. Also contribution from
   PEEP. Will bolus to drive down lactate.
   - levophed if need to keep CPP > 60
   .
   #Hypoxia: Not in ARDS per CXR or P/F ratio.  Possible retrocardiac
   pneumonia.
   - influenza swab
   - follow cultures
   .
   # Tachycardia: Likely from adrenergic state.  Unlikely dry given normal
   UOP
   - follow UOP
   .
   #Elevated cardiac enzymes: No STEMI on EKG, most likely demand in the
   setting of sepsis.
   - Trend enzymes
   - TEE when possible
   - consider cath when stable
   .
   ICU Care
   Nutrition: TF today
   Glycemic Control: RISS
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-20**] 04:31 AM
   Prophylaxis:
   DVT: heparin SQ, stop SQ heparin on Sunday night in prep for bolt
   removal
   Stress ulcer: PPI
   VAP:  bundle
   Comments: bowel regimen
   Communication:  Husband [**Name (NI) 7337**] [**Telephone/Fax (1) 9918**], [**Name2 (NI) **] [**Telephone/Fax (1) 9919**], SW
   consult
   Code status: Full code
   Disposition:ICU

2109-12-21 10:27:00 Physician Attending Progress Note
Chief Complaint: meningitis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2109-12-20**] 11:27 AM
   ECHO
 BLOOD CULTURED - At [**2109-12-20**] 05:33 PM
 FEVER - 102.5
F - [**2109-12-20**] 04:00 PM
   ICP remained--> 10
   mannitol and hypertonic saline stopped
   a-line changed over wire for dampened signal
   History obtained from Medical records, HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-20**] 11:51 PM
   Ampicillin - [**2109-12-21**] 05:52 AM
   Acyclovir - [**2109-12-21**] 08:00 AM
   Vancomycin - [**2109-12-21**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-12-21**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-21**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.8
C (101.9
   HR: 118 (104 - 130) bpm
   BP: 121/72(83) {92/60(71) - 126/87(95)} mmHg
   RR: 25 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   ICP: 7 (4 - 18) mmHg
   Total In:
                                                                  3,697 mL
                                                                  2,383 mL
   PO:
   TF:
   IVF:
                                                                  3,577 mL
                                                                  2,383 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                    535 mL
   Urine:
                                                                  3,710 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -13 mL
                                                                  1,848 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.47/28/133/19/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   216 K/uL
   123 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.5 mEq/L
   14 mg/dL
   123 mEq/L
   152 mEq/L
   30.6 %
   14.7 K/uL
        [image002.jpg]
                            [**2109-12-19**]  02:09 AM
                            [**2109-12-19**]  04:17 AM
                            [**2109-12-19**]  04:27 AM
                            [**2109-12-19**]  11:44 AM
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
   WBC
   21.6
   18.6
   14.7
   Hct
   37.3
   32.3
   30.6
   Plt
   273
   284
   216
   Cr
   0.6
   0.6
   0.6
   TropT
   1.67
   1.13
   1.00
   TCO2
   16
   17
   18
   19
   19
   21
   Glucose
   172
   137
   123
   Other labs: PT / PTT / INR:14.6/27.3/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:229/313, Alk Phos / T Bili:49/0.3,
   Amylase / Lipase:/10, Differential-Neuts:94.4 %, Lymph:4.3 %, Mono:0.7
   %, Eos:0.5 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:578 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Imaging: cxr--small lung vol, et and line in position, no new focal
   findings
   Microbiology: hsv pcr pending, no new growth on cx
   Assessment and Plan
   53F with respiratory failure and cerebral edema in setting of suspected
   bacterial meningitis
   Primary issues include:
   # Presumed bacterial meningitis/cerebral edema
   - continue broad spectrum antibiotics--
   Vancomycin/ceftriaxone/ampicillin/acyclovir
   - No indication for steroids at this time
   - f/u cultures, HSV pcr here and at OSH
   --increased ICP now improved after mannitol/hypertonic saline and
   hyperventilation, ICP monitor in place
   --EEG today to eval for sz
   --Plan on repeat LP Monday
   #Respiratory Failure:  Intubated in setting of altered mental status,
   instability, hypoxemia.
   Continue acv support, oxygenating well, can liberalize resp rate/high
   MV given short-lived benefit from hyperventilation and improved ICP
   # hypernatremia--multiple potential causes (mannitol, hypertonic
   saline, ?  developing central DI, intravascular depletion)
   --follow cvp,
   --bolus NS,
   --trend na
   --gently correct free water def d5w for free water def though will
   address with  neuro team
   #transaminitis
likely shock liver from hypotension
   Trend, check ruq us
   #NGMA
from NS resus, use LR
   # tachycardia
likely from inflammatory process, fever, insensible
   losses, may be intravascularly dry,? related to cessation of diltiazem
   which takes at home,
   --follow cvp and urine outpt,
   --fluid bolus with LR
   # Systolic dysfx--Cardiac markers have peaked, suspect
   sepsis-myocardial dysfunction,
   [**Month (only) 11**] improve if underlying infection improves, continue to monitor HDs
   Remainder as per resident note
   ICU Care
   Nutrition: initiate TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-20**] 04:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:  H2B
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2109-12-22 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Unresponsive
   24 Hour Events:
 ARTERIAL LINE - STOP [**2109-12-21**] 02:00 PM
 ULTRASOUND - At [**2109-12-21**] 04:51 PM
   US liver/gallbladder
 ARTERIAL LINE - START [**2109-12-22**] 12:51 AM
 FEVER - 102.2
F - [**2109-12-21**] 04:00 PM
   Vanc changed to 1500mg TID needs trough before 1600 dose
   Call NWH for culture results and Bcxs NGTD
   Neuro said goal sodium 145-150 and pH 7.45-7.5
   Radial art line was removed and replace w/ femoral art line
   Family was updated, son and brother
   TFs were started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-20**] 11:51 PM
   Vancomycin - [**2109-12-22**] 01:04 AM
   Acyclovir - [**2109-12-22**] 01:04 AM
   Ampicillin - [**2109-12-22**] 02:39 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-12-22**] 01:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Cough
   Flowsheet Data as of  [**2109-12-22**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.6
C (99.7
   HR: 113 (94 - 121) bpm
   BP: 163/101(122) {106/76(-2) - 163/101(122)} mmHg
   RR: 24 (10 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 18 (8 - 18)mmHg
   ICP: 20 (5 - 20) mmHg
   Total In:
                                                                  6,243 mL
                                                                  1,451 mL
   PO:
   TF:
                                                                    153 mL
   IVF:
                                                                  6,243 mL
                                                                  1,068 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    310 mL
   Urine:
                                                                  1,180 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,063 mL
                                                                  1,141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 35.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.45/29/111/19/-1
   Ve: 12.7 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   166 K/uL
   9.8 g/dL
   111 mg/dL
   0.4 mg/dL
   19 mEq/L
   3.4 mEq/L
   11 mg/dL
   116 mEq/L
   144 mEq/L
   30.3 %
   14.6 K/uL
        [image002.jpg]
                            [**2109-12-19**]  04:27 AM
                            [**2109-12-19**]  11:44 AM
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
   WBC
   18.6
   14.7
   14.6
   Hct
   32.3
   30.6
   30.3
   Plt
   [**Telephone/Fax (3) 9981**]
   Cr
   0.6
   0.6
   0.4
   TropT
   1.13
   1.00
   TCO2
   17
   18
   19
   19
   21
   21
   Glucose
   137
   123
   111
   Other labs: PT / PTT / INR:14.6/27.3/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:160/120, Alk Phos / T Bili:45/0.2,
   Amylase / Lipase:/10, Differential-Neuts:74.4 %, Lymph:21.1 %, Mono:3.4
   %, Eos:0.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:458 IU/L,
   Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: RUQ U/S [**12-21**]:
   Extremely limited study due to body habitus.
   Cholelithiasis with distended gallbladder. HIDA scan can be done for
   further
   evaluation if clinically warranted.
   CXR [**12-21**]:
   The ET tube tip is 5.5 cm above the carina. The NG tube tip passes
   below the
   diaphragm terminating in the stomach. The right internal jugular line
   tip is
   in the mid SVC. Cardiomediastinal silhouette is unchanged. There is
   left
   retrocardiac atelectasis which is unchanged. Mild vascular engorgement
   is present with no overt failure. There is no evidence of pneumothorax.
   Microbiology: [**2109-12-19**] 12:47 pm CSF;SPINAL FLUID      Source: LP
   TUBE#3.
      GRAM STAIN (Final [**2109-12-19**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   [**2109-12-22**] 2:07 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2109-12-22**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Blood cx [**12-20**]: NGTD
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   Assessment/Plan
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema.
   #  Meningitis: ICP improving, WBC trending down, still febrile.
   - HOB elevation, d/c hypertonic saline and mannitol. Goal sodium
   145-150 per Neuro and pH 7.45-750.  ICP < 20, pressors for CPP > 60; as
   currently well controlled,
   - Vanc/CTX/ampicillin/acyclovir
   - follow cultures
   - Neuro and ID recs
   - Sedation for any increased ICP
   - Decrease FW in TF today to increase [**Last Name (LF) **], [**First Name3 (LF) 116**] use hypertonic if not
   responding
   # Hypotension: resolved
   - Con
t to monitor
   .
   #Hypoxia: Resolved. Will not try to extubate soon given ICP
   .
   # Tachycardia: Likely inflammatory milieu given did not respond to
   fluids but BP did.
   - follow UOP
   .
   #Elevated cardiac enzymes: No STEMI on EKG, most likely demand in the
   setting of sepsis. TTE shows global hypokinesis
   - Trend enzymes
   - TEE when possible
   - consider cath when stable
   ICU Care
   Nutrition:
   Replete (Full) - [**2109-12-22**] 01:11 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2109-12-22 10:45:00 Physician Attending Progress Note
Chief Complaint: presumed meningitis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53F with respiratory failure and cerebral edema in setting of suspected
   bacterial meningitis
   24 Hour Events:
 ARTERIAL LINE - STOP [**2109-12-21**] 02:00 PM
 ULTRASOUND - At [**2109-12-21**] 04:51 PM
   US liver/gallbladder
 ARTERIAL LINE - START [**2109-12-22**] 12:51 AM
 FEVER - 102.2
F - [**2109-12-21**] 04:00 PM
   vanvo dosing adjsuted, remaind febrile
   fem arterial line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-20**] 11:51 PM
   Vancomycin - [**2109-12-22**] 08:35 AM
   Acyclovir - [**2109-12-22**] 08:35 AM
   Ampicillin - [**2109-12-22**] 09:33 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-12-22**] 09:33 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-22**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.1
C (98.8
   HR: 102 (94 - 121) bpm
   BP: 133/85(101) {126/76(-2) - 163/101(122)} mmHg
   RR: 28 (23 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 14 (8 - 18)mmHg
   ICP: 12 (5 - 20) mmHg
   Total In:
                                                                  6,245 mL
                                                                  2,499 mL
   PO:
   TF:
                                                                    249 mL
   IVF:
                                                                  6,245 mL
                                                                  1,921 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    455 mL
   Urine:
                                                                  1,180 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,065 mL
                                                                  2,044 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 39.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/29/111/19/-1
   Ve: 11.4 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases),
   distant
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   166 K/uL
   111 mg/dL
   0.4 mg/dL
   19 mEq/L
   3.4 mEq/L
   11 mg/dL
   116 mEq/L
   144 mEq/L
   30.3 %
   14.6 K/uL
        [image002.jpg]
                            [**2109-12-19**]  04:27 AM
                            [**2109-12-19**]  11:44 AM
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
   WBC
   18.6
   14.7
   14.6
   Hct
   32.3
   30.6
   30.3
   Plt
   [**Telephone/Fax (3) 9981**]
   Cr
   0.6
   0.6
   0.4
   TropT
   1.13
   1.00
   TCO2
   17
   18
   19
   19
   21
   21
   Glucose
   137
   123
   111
   Other labs: PT / PTT / INR:14.6/27.3/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:160/120, Alk Phos / T Bili:45/0.2,
   Amylase / Lipase:/10, Differential-Neuts:74.4 %, Lymph:21.1 %, Mono:3.4
   %, Eos:0.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:458 IU/L,
   Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: no new film
   ruq gb us--distended GB, stones, limited study due to body habitus
   Microbiology: no new data back
   Assessment and Plan
   53F with respiratory failure and cerebral edema in setting of suspected
   bacterial meningitis
   Primary issues include:
   # Presumed bacterial meningitis/cerebral edema
   - continue broad spectrum antibiotics--
   Vancomycin/ceftriaxone/ampicillin/acyclovir
   - f/u cultures, HSV pcr here and at OSH
   --increased ICP improved after mannitol/hypertonic saline and
   hyperventilation, ICP monitor in place with plan to remove bolt
   possibly tomorrow
    --EEG to eval for sz
   --Plan on repeat LP Monday
   #Respiratory Failure:  Intubated in setting of altered mental status,
   instability, hypoxemia.
   Continue acv support, oxygenating well, continue current settings with
   high MV noting though the  short-lived benefit from hyperventilation
   and improved ICP
   # hypernatremia
normalized now, but plan to keep 145-150 range per
   neuro.
   --trend na
   --cut back on free water
   #transaminitis
likely shock liver from hypotension, improving slowly
   Trend,  ruq us without acute process
   #NGMA
from NS resus, use LR, cvp adequate and HD stable
   # tachycardia
likely from inflammatory process, fever, insensible
   losses, may be intravascularly dry,? related to cessation of diltiazem
   which takes at home,
   --follow cvp and urine outpt adequate, improved today
   # Systolic dysfx--Cardiac markers have peaked, suspect
   sepsis-myocardial dysfunction,
   [**Month (only) 11**] improve if underlying infection improves, continue to monitor HDs
   Remainder as per resident note
   ICU Care
   Nutrition:
   Replete (Full) - [**2109-12-22**] 01:11 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: On hold for bolt removal)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  continue to update family
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2109-12-23 07:24:00 Physician Resident Progress Note
Chief Complaint: altered mental status, diffuse cerebral edema
   24 Hour Events:
   Plan for repeat LP today per ID recs, ordered in POE.
   NWH cx still NGTD
   Vanc trough 22.6, kept dose the same.
   Updated family on guarded prognosis.
   Bolt removed by neurosurgery this AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-22**] 12:20 PM
   Acyclovir - [**2109-12-23**] 01:09 AM
   Ampicillin - [**2109-12-23**] 01:09 AM
   Vancomycin - [**2109-12-23**] 04:20 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-12-22**] 09:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-23**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 100 (91 - 116) bpm
   BP: 147/91(109) {126/76(92) - 170/97(123)} mmHg
   RR: 28 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 9 (3 - 15)mmHg
   ICP: 3 (1 - 24) mmHg
   Total In:
                                                                  4,895 mL
                                                                  1,233 mL
   PO:
   TF:
                                                                    751 mL
                                                                     62 mL
   IVF:
                                                                  3,614 mL
                                                                  1,171 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    510 mL
   Urine:
                                                                  1,310 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,585 mL
                                                                    723 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 47.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/31/153/21/-2
   Ve: 12.2 L/min
   PaO2 / FiO2: 383
   Physical Examination
   GA: intubated, sedated, tachynpneic on vent
   Cardiac: tachycardic
   Lungs: ventilated breath sounds
   Abdomen: obese, distended, BS present
   LE: +pitting edema, wwp
   Labs / Radiology
   175 K/uL
   8.7 g/dL
   144 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.6 mEq/L
   10 mg/dL
   116 mEq/L
   144 mEq/L
   27.7 %
   10.6 K/uL
        [image002.jpg]
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
                            [**2109-12-22**]  03:35 PM
                            [**2109-12-23**]  05:08 AM
   WBC
   18.6
   14.7
   14.6
   10.6
   Hct
   32.3
   30.6
   30.3
   27.7
   Plt
   [**Telephone/Fax (3) 9990**]75
   Cr
   0.6
   0.6
   0.4
   0.4
   TropT
   1.13
   1.00
   TCO2
   19
   19
   21
   21
   21
   Glucose
   137
   123
   111
   144
   Other labs: PT / PTT / INR:13.8/27.4/1.2, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:97/42, Alk Phos / T Bili:45/0.3,
   Amylase / Lipase:/10, Differential-Neuts:74.4 %, Lymph:21.1 %, Mono:3.4
   %, Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:334 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Gram Stain (sputum: [**12-22**]) - GNRs
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   Assessment/Plan
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema.
   #  Meningitis: ICP improving, leukocytosis improving, still with
   fevers. Bolt removed by neurosurgery today. Still unable to assess
   mental status due to sedation for vent. Head CT with contrast from OSH
   not sufficient to assess for intracranial infection/leptomeningial
   disease.
   - HOB elevation, d/c hypertonic saline and mannitol. Goal sodium
   145-150 per Neuro and pH 7.45-750.  ICP < 20, pressors for CPP > 60; as
   currently well controlled,
   - Vanc/CTX/ampicillin/acyclovir
   - follow CSF/blood cultures/ HSV PCR
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - hold hypertonic saline, recheck Na this afternoon to assess for
   stability (restart saline if Na < 140)
   - discuss w/ neuro/ID whether further imaging (ie open MRI) would be
   helpful in management.
   # Respiratory issues: Was dysychronous with vent this AM during rounds,
   requiring brief increase in sedation. However, will plan for SBT.
   - change sedation to propofol
   # Pneumonia: New bilateral PNAs noted on CXR, c/f VAP
   - continue current [**Last Name (LF) 114**], [**First Name3 (LF) 116**] discuss with ID whether addition of more
   gram negative coverage would be appropriate.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU

2109-12-23 09:23:00 Physician Attending Progress Note
Chief Complaint: Meningitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53yoF with h/o obesity; here with meningitis and respiratory failure.
   24 Hour Events:
   No positive culture data so far.
   She remains on hypertonic saline.
   ICP < 10 and stable; ICP monitoring discontinued this morning.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-22**] 12:20 PM
   Ampicillin - [**2109-12-23**] 01:09 AM
   Vancomycin - [**2109-12-23**] 04:20 AM
   Acyclovir - [**2109-12-23**] 08:35 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-12-22**] 09:33 AM
   Other medications:
   Pepcid
   Insulin sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-23**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 94 (91 - 116) bpm
   BP: 156/93(114) {126/76(92) - 170/97(123)} mmHg
   RR: 28 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 11 (3 - 15)mmHg
   ICP: 5 (1 - 24) mmHg
   Total In:
                                                                  4,902 mL
                                                                  1,451 mL
   PO:
   TF:
                                                                    751 mL
                                                                     62 mL
   IVF:
                                                                  3,621 mL
                                                                  1,389 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    870 mL
   Urine:
                                                                  1,310 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,592 mL
                                                                    581 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/31/153/21/-2
   Ve: 12.1 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Gen: Does not awaken to voice or sternal rub; pupils equal and round;
   reactive
   Chest: diffuse rhonchi, scattered wheeze
   CV: RRR
   Abd: s/nt/nd
   Ext: Minimal edema
   Labs / Radiology
   8.7 g/dL
   175 K/uL
   144 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.6 mEq/L
   10 mg/dL
   116 mEq/L
   144 mEq/L
   27.7 %
   10.6 K/uL
        [image002.jpg]
                            [**2109-12-19**]  05:41 PM
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
                            [**2109-12-22**]  03:35 PM
                            [**2109-12-23**]  05:08 AM
   WBC
   18.6
   14.7
   14.6
   10.6
   Hct
   32.3
   30.6
   30.3
   27.7
   Plt
   [**Telephone/Fax (3) 9990**]75
   Cr
   0.6
   0.6
   0.4
   0.4
   TropT
   1.13
   1.00
   TCO2
   19
   19
   21
   21
   21
   Glucose
   137
   123
   111
   144
   Other labs: PT / PTT / INR:13.8/27.4/1.2, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:97/42, Alk Phos / T Bili:45/0.3,
   Amylase / Lipase:/10, Differential-Neuts:74.4 %, Lymph:21.1 %, Mono:3.4
   %, Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:334 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: 7.43/31/153
   Microbiology: Sputum: gram-stain w/ GNR
   Blood cultures: no growth
   CSF: No growth; HSV pending
   Assessment and Plan
   53F here with altered mental status, fever; LP consistent with
   meningitis and head CT initially with cerebral edema. Now s/p ICP
   monitoring given normalization of ICP.
   1.       Meningitis:  Leukocytosis.  Awaiting cultures.
   -  Will discuss with ID regarding the utility of repeat LP; preference
   is not to obtain unless will change our current management.
   - remains on broad antibiotics, awaiting HSV pcr so can discontinue
   acyclovir.
   2.       Respiratory Failure:
   - Oxygenation improved, ventilation adequate.
   - As wean sedation today, will move towards PSV if dysnchronous.
   - GNR in sputum, evolving CXR infiltrate, increased secretions and
   persistent fever: will broaden gram-negative coverage to include
   cefipime and discuss with ID re: meningitis dosing.
   3.       Cerebral Edema: ICP monitoring discontinued with improvement.
   -  will maintain Na 145-150 with hypertonic as needed.
   - Try to wake up, discontinue versed and use propofol if needed for
   agitation.
   - Will discuss if there is any need for repeat head CT.
   ICU Care
   Nutrition: Tube feeds held for possible procedure; restart when assure
   no procedures.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-18**] 11:59 PM
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication: Family meeting held , ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   53 year old female with meningitis/respiratory failure who remain with
   decreased mental status though on sedation.
   T 38  HR 94   BP 150/90   RR 16  Sat: 100%
   On exam, obese female, intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Ext: no edema
   Assessment:
   1)       Meningitis
   2)       Respiratory Failure
   Plan:
   1)       Decrease sedation and re-evaluate mental status; if sedation
   necessary, will chose propofol assuming BP tolerates
   2)       Will discontinue bolt today as ICP normalized
   3)       Will allow patient to auto-diuresis at the moment but may need
   lasix
   4)       Continue antibiotics, follow HSV to determine when to
   discontinue acyclovir
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2109-12-23**] 17:17 ------

2109-12-24 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
   Neurosurgery removed bolt today.
   New BL PNAs on CXR and GNRs on sputum GS: changed ceftriaxone to
   cefepime (discussed with ID)
   Per rads, may miss [**First Name (Titles) 10008**] [**Last Name (Titles) 10009**] on head CT w/ contrast: MRI is
   preferred, open MRI be appropriate for her.
   EEG today
   LP deferred
   repeat Na stable at 144 off of hypertonic saline
   can consider lasix overnight if having respiratory distress
   had some episodes of ectopy o/n, repleted K and Mg
   switched to propofol to lighten sedation to better assess MS
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-22**] 12:20 PM
   Vancomycin - [**2109-12-23**] 02:08 PM
   Acyclovir - [**2109-12-24**] 12:24 AM
   Ampicillin - [**2109-12-24**] 02:15 AM
   Cefipime - [**2109-12-24**] 04:15 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 100 (94 - 120) bpm
   BP: 131/76(93) {119/70(86) - 192/111(138)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 6 (6 - 18)mmHg
   ICP: 0 (0 - 5) mmHg
   Total In:
                                                                  3,307 mL
                                                                    574 mL
   PO:
   TF:
                                                                     62 mL
   IVF:
                                                                  3,245 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,170 mL
   Urine:
                                                                  3,410 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                   -596 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 484 (432 - 552) mL
   PS : 15 cmH2O
   RR (Set): 28
   RR (Spontaneous): 23
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: ///22/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   180 K/uL
   9.2 g/dL
   102 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.8 mEq/L
   5 mg/dL
   110 mEq/L
   142 mEq/L
   28.4 %
   9.1 K/uL
        [image002.jpg]
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
                            [**2109-12-22**]  03:35 PM
                            [**2109-12-23**]  05:08 AM
                            [**2109-12-24**]  05:17 AM
   WBC
   18.6
   14.7
   14.6
   10.6
   9.1
   Hct
   32.3
   30.6
   30.3
   27.7
   28.4
   Plt
   [**Telephone/Fax (3) 9990**]75
   180
   Cr
   0.6
   0.6
   0.4
   0.4
   0.3
   TropT
   1.00
   TCO2
   19
   19
   21
   21
   21
   Glucose
   137
   123
   111
   144
   102
   Other labs: PT / PTT / INR:14.6/25.6/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:66/25, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.4 %, Lymph:21.1 %, Mono:3.4
   %, Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:359 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR (my read): Improved bilateral opacities
   Microbiology: [**2109-12-22**] 2:07 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2109-12-22**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         YEAST.    SPARSE GROWTH.
   Blood cx [**12-20**]: NGTD
   HSV PCR negative
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema.
   #  Meningitis: ICP improving, leukocytosis improving, still with
   fevers. Bolt removed by neurosurgery yesterday. Still unable to assess
   mental status due to sedation for vent. Head CT with contrast from OSH
   not sufficient to assess for subtle intracranial
   infection/leptomeningial disease. HSV PCR negative
   - Ween off propofol to evaluate underlying mental status today
   - HOB elevation, d/c hypertonic saline and mannitol.
   - Maintain Na>140
   - Vanc/Cefepime/ampicillin, Can d/c acyclovir given negative HSV PCR
   - follow CSF/blood cultures/sputum cultures
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - hold hypertonic saline, recheck Na this afternoon to assess for
   stability (restart saline if Na < 140)
   - discuss w/ neuro/ID whether further imaging (ie open MRI) would be
   helpful in management.
   # Respiratory issues: Was dysychronous with vent  yesterday during
   rounds, requiring brief increase in sedation. However, will plan for
   SBT in am tomorrow
   - Ween off propofol, if still dysynchronous or hyperdynamic, will start
   precedex instead
   - begin to ween peep and PS today
   # Pneumonia: New bilateral PNAs noted on CXR, c/f VAP yesterday. Now
   improved with cefepime. Sputum cx growing only yeast.
   -Con
t cefepime for 8 day course for ? VAP, however, if cultures
   negative at 48 hours, will change back to ceftriaxone.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2109-12-24 10:29:00 Physician Attending Progress Note
Chief Complaint: Altered mental status/meningitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bolt removed yesterday.
   CXR with bilateral PNA, sputum Cx w/ GNR; changed ceftriaxone to
   cefipime.
   EEG report pending.
   Ectopy overnight, improved with electrolyte repletion.
   Febrile this morning; obtaining cultures.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-22**] 12:20 PM
   Vancomycin - [**2109-12-23**] 02:08 PM
   Acyclovir - [**2109-12-24**] 12:24 AM
   Ampicillin - [**2109-12-24**] 02:15 AM
   Cefipime - [**2109-12-24**] 04:15 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Chlorhexadine
   Insulin sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-24**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 112 (99 - 120) bpm
   BP: 146/86(105) {119/70(86) - 192/111(138)} mmHg
   RR: 22 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 6 (6 - 18)mmHg
   Total In:
                                                                  3,307 mL
                                                                    886 mL
   PO:
   TF:
                                                                     62 mL
   IVF:
                                                                  3,245 mL
                                                                    756 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  2,270 mL
   Urine:
                                                                  3,410 mL
                                                                  2,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                 -1,384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (432 - 552) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 10.6 L/min
   Physical Examination
   Gen: Somnolent, PERRL; does not respond to voice/noxious stimuli.
   Chest: Clear lungs
   CV: RRR
   Abd: s/nt/obese
   Ext: 1+ edema B symmetric
   Labs / Radiology
   9.2 g/dL
   180 K/uL
   102 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.8 mEq/L
   5 mg/dL
   110 mEq/L
   142 mEq/L
   28.4 %
   9.1 K/uL
        [image002.jpg]
                            [**2109-12-20**]  12:07 AM
                            [**2109-12-20**]  04:55 AM
                            [**2109-12-20**]  05:15 AM
                            [**2109-12-20**]  12:26 PM
                            [**2109-12-21**]  06:18 AM
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
                            [**2109-12-22**]  03:35 PM
                            [**2109-12-23**]  05:08 AM
                            [**2109-12-24**]  05:17 AM
   WBC
   18.6
   14.7
   14.6
   10.6
   9.1
   Hct
   32.3
   30.6
   30.3
   27.7
   28.4
   Plt
   [**Telephone/Fax (3) 9990**]75
   180
   Cr
   0.6
   0.6
   0.4
   0.4
   0.3
   TropT
   1.00
   TCO2
   19
   19
   21
   21
   21
   Glucose
   137
   123
   111
   144
   102
   Other labs: PT / PTT / INR:14.6/25.6/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:66/25, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.4 %, Lymph:21.1 %, Mono:3.4
   %, Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:359 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR: improving bilateral infiltrates
   Microbiology: Sputum: Sparse yeast
   HSV PCR: negative
   CSF/blood cultures: no growth to date
   Assessment and Plan
   53yoF with HTN, obesity; here with suspected bacterial meningitis.
   1.  Neuro:  Primary issue at this time is her neurologic status.
   - Will try to awaken, off propofol and perform neuro exam
   - No benzos
   - F/u EEG report
   - Discuss with ID and neuro regarding utility of additional imaging.
   2.  Respiratory Failure:  Barriers to extubation include her mental
   status, obesity.
   - check ABG today.
   - Will need to SBT when sitting upright,
   - Aim for diuresis today with TBB goal negative 1L today; lasix if
   needed (but currently auto-diuresising)
   - Decrease PEEP and PSV today as tolerated.
   3.  Meningitis:  No pathogen identified.  Vancomycin level 14.6; goal
   level 20.
   - now off acyclovir with HSV negative
   - Continue vancomycin, ampicillin, cefipime
   - If sputum cultures negative tomorrow (48h) will change from cefipime
   back to ceftriaxone
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:  PPI
   VAP:  HOB/chlorhexidine/mouthcare
   Communication:  Will update family
   Code status: Full code
   Disposition : Critically ill, ICU
   Total time spent:  35minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Had fever this morning plus growing gram negatives from sputum with
   increased secretions, so ceftriaxone being changed to cefepime.
   Propofol off but patient remains poorly responsive.  EEG reportedly
   without seizures.
   38.3   P 111  BP 146/70  RR  22  Sat: 98%
   On exam, intubated with sedation currently off and remains unresponsive
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Neuro: unresponsive
   A:
   1)       Meningitis
   2)       Acute Respiratory Failure
   3)       Fever
 probable VAP given secretions/gram negatives from
   sputum
   Plan:
   1)       Hold sedation and monitor to see if neuro status improves
   2)       Change to Cefepime for probable VAP.  Cultures pending
   3)       Continue to allow for auto-diuresis
   Addendum: Follow-up EEG with video reveals seizure activity and
   therefore will load with Dilantin, will sedate for the moment and will
   follow.
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2109-12-24**] 07:01 PM ------

2109-12-25 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Meningitis
   24 Hour Events:
 PAN CULTURE - At [**2109-12-24**] 09:01 AM
 EEG - At [**2109-12-24**] 03:00 PM
 FEVER - 101.8
F - [**2109-12-25**] 04:00 AM
   Was found to be seizing on EEG from [**12-23**] started on dilantin bolus and
   then 300mg TID.
   Was not started on steroids
   Vanc trough was low so increased back to 1500mg TID
   Autodiuresed
   Started and stopped presidex.
   Woke up, started following comman
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-22**] 12:20 PM
   Acyclovir - [**2109-12-24**] 12:24 AM
   Cefipime - [**2109-12-25**] 04:19 AM
   Vancomycin - [**2109-12-25**] 06:06 AM
   Ampicillin - [**2109-12-25**] 06:06 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-12-24**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2109-12-25**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2109-12-25**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 105 (69 - 126) bpm
   BP: 134/70(91) {94/54(67) - 205/119(149)} mmHg
   RR: 20 (7 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 13 (6 - 20)mmHg
   Total In:
                                                                  3,295 mL
                                                                  1,194 mL
   PO:
   TF:
   IVF:
                                                                  3,005 mL
                                                                  1,194 mL
   Blood products:
   Total out:
                                                                  5,355 mL
                                                                    830 mL
   Urine:
                                                                  5,355 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,060 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (364 - 545) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: 7.49/33/118/24/3
   Ve: 11.6 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   208 K/uL
   8.7 g/dL
   126 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   6 mg/dL
   108 mEq/L
   140 mEq/L
   27.8 %
   8.6 K/uL
        [image002.jpg]
                            [**2109-12-21**]  06:18 AM
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
                            [**2109-12-22**]  03:35 PM
                            [**2109-12-23**]  05:08 AM
                            [**2109-12-24**]  05:17 AM
                            [**2109-12-24**]  11:31 AM
                            [**2109-12-24**]  04:24 PM
                            [**2109-12-24**]  05:38 PM
                            [**2109-12-25**]  03:35 AM
   WBC
   14.7
   14.6
   10.6
   9.1
   8.6
   Hct
   30.6
   30.3
   27.7
   28.4
   27.8
   Plt
   [**Telephone/Fax (3) 10021**]80
   208
   Cr
   0.6
   0.4
   0.4
   0.3
   0.3
   TCO2
   21
   21
   23
   27
   26
   Glucose
   123
   111
   144
   102
   126
   Other labs: PT / PTT / INR:13.8/27.7/1.2, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:66/25, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.0 %, Lymph:20.4 %, Mono:3.2
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:359 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:
   Microbiology: [**2109-12-24**] 10:34 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2109-12-24**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      LEGIONELLA CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   [**2109-12-22**] 2:07 am SPUTUM     Site: ENDOTRACHEAL
                               **FINAL REPORT [**2109-12-24**]**
      GRAM STAIN (Final [**2109-12-22**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2109-12-24**]):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.
   Blood cx 12/18,22: NGTD
   Urine cx [**12-24**]: NGTD
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema.
   #  Meningitis: Mental status improving, leukocytosis improving, still
   with fevers. Head CT with contrast from OSH not sufficient to assess
   for subtle intracranial infection/leptomeningial disease.  Continuous
   EEG showed possible seizure activity.
   - Ween sedation today in anticipation of possible extubation
   - HOB elevation
   - Maintain Na>140
   - Vanc/Cefepime/ampicillin
   - follow CSF/blood cultures/sputum cultures
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - hold hypertonic saline, recheck Na this afternoon to assess for
   stability (restart saline if Na < 140)
   - Con
t dilantin per neuro recs
   # Respiratory issues: Dysynchronous off propofol yesterday, started on
   precedex but became hypotensive.  Started on versed for possible
   seizure activity
   - begin to ween peep and PS today
   - Check SBT and possible extubation later today
   # Pneumonia: New bilateral PNAs noted on CXR, c/f VAP 2 days ago. Now
   improved with cefepime. Sputum cx growing only yeast x 48 hours
   - Consider changing back to ceftriaxone today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2109-12-25 10:02:00 Physician Attending Progress Note
Chief Complaint: Meningitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53F with obesity, HTN with meningitis, suspected bacterial etiology.
   Course complicated by elevated ICP that is now improved.
   24 Hour Events:
   Continuous EEG with seizures; started on dilantin.
   Continued to autodiurese.
   Restarted on versed, off precidex in setting of seizures.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-22**] 12:20 PM
   Acyclovir - [**2109-12-24**] 12:24 AM
   Cefipime - [**2109-12-25**] 04:19 AM
   Vancomycin - [**2109-12-25**] 06:06 AM
   Ampicillin - [**2109-12-25**] 06:06 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-12-25**] 04:19 AM
   Dilantin - [**2109-12-25**] 08:05 AM
   Famotidine (Pepcid) - [**2109-12-25**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-25**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.8
   HR: 104 (69 - 126) bpm
   BP: 154/86(108) {94/54(67) - 205/119(149)} mmHg
   RR: 22 (7 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 13 (6 - 20)mmHg
   Total In:
                                                                  3,295 mL
                                                                  1,297 mL
   PO:
   TF:
   IVF:
                                                                  3,005 mL
                                                                  1,237 mL
   Blood products:
   Total out:
                                                                  5,355 mL
                                                                  1,210 mL
   Urine:
                                                                  5,355 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,060 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 519 (364 - 545) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.49/31/109/24/1
   Ve: 10.4 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: awakens to voice and follows simple commands
   Chest:  Clear anterior and lateral fields; unable to exam posterior
   lung fields
   CV:  RRR
   Abd: s/nt/nd
   Ext:  minimal edema
   Labs / Radiology
   8.7 g/dL
   208 K/uL
   126 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   6 mg/dL
   108 mEq/L
   140 mEq/L
   27.8 %
   8.6 K/uL
        [image002.jpg]
                            [**2109-12-21**]  10:35 PM
                            [**2109-12-22**]  04:58 AM
                            [**2109-12-22**]  03:35 PM
                            [**2109-12-23**]  05:08 AM
                            [**2109-12-24**]  05:17 AM
                            [**2109-12-24**]  11:31 AM
                            [**2109-12-24**]  04:24 PM
                            [**2109-12-24**]  05:38 PM
                            [**2109-12-25**]  03:35 AM
                            [**2109-12-25**]  08:05 AM
   WBC
   14.6
   10.6
   9.1
   8.6
   Hct
   30.3
   27.7
   28.4
   27.8
   Plt
   166
   175
   180
   208
   Cr
   0.4
   0.4
   0.3
   0.3
   TCO2
   21
   21
   23
   27
   26
   24
   Glucose
   111
   144
   102
   126
   Other labs: PT / PTT / INR:13.8/27.7/1.2, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:66/25, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.0 %, Lymph:20.4 %, Mono:3.2
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:359 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: improving bilateral infiltrates
   Microbiology: Sputum: yeast
   Blood cultures: NGTD
   Urine cultures: NGTD
   Assessment and Plan
   53F with meningitis but no pathogen identified.
   1.       Meningitis:  WBC improving, persistent fevers, mental status
   improving and now able to follow commands
   - currently vancomycin, ampicillin, cefipime; will change from cefipime
   to ceftriaxone
   - await pneumococcal antigen from CSF
   - vanco trough tomorrow
   - Hold on steroids for time being, will discuss with ID in setting of
   meningitis (current ID recommendation is to not do steroids).
   2.       Seizures:  EEG positive yesterday, mental status improving
   with dilantin
   - continue dilantin
   - continuous EEG
   - Will attempt to wean versed later today and keep EEG monitoring
   3.       Respiratory Failure:  Intubated in setting of hypoxemia and
   airway protection.  Primary barrier to extubation is her mental status
   which is improving and her persistent high PEEP.  Secretions minimal.
   - wean PEEP, FiO2 as tolerated
   - Plan to SBT later today or tomorrow
   - continue to allow auto-diuresis, goal TBB negative at least 2L today;
   lasix as needed.
   4.       Fevers:  All cultures negative to date
   - LENIs.
   - Discuss repeat imaging.
   ICU Care
   Nutrition: Restart tube feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Will update family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient and agree with substantially with
   the assessment and plan with the following modifications/emphasis:
   53 year old female with meningitis now with sub-clinical seizures.
   Overnight, received dilantin and has had remarkable improvement in
   mental status.  Remains intubated on ventilator and still having
   fevers.  Ultrasound reveals a left DVT.
   Tm 38.3   P 104  BP 154/86  RR 21  Saturation: 96%  Fio2=0.4/PEEP=5
   Responds to simple commands
   Chest: Coarse BS
   Heart: S1 S2
   Abd: soft NT ND
   Ext: +1 edema
   Assessment:
   1)       Meningitis
   2)       Acute Respiratory Failure
   3)       Seizures
   4)       Deep Venous Thrombosus
   Discussion: much improvement of mental status presumably with
   dilantin.  Thus, steroids not current warranted given improvement and
   time elapse from disease onset.
   Plan:
   1)       Continue Dilantin
   2)       Diuresis to help with weaning
   3)       Heparin for DVT
   4)       Continue EEG monitoring.
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2109-12-25**] 05:16 PM ------

2109-12-26 07:14:00 Physician Resident Progress Note
Chief Complaint: Meningitis
   24 Hour Events:
   Weened to [**8-10**], failed SBT after that with tachypnea, tachycardia, and
   hypertension. Tried to ween to PEEP of 5 but low PaO2 in am, back up to
   8.
   PM Na 134, restarted hypertonic saline, then normalized in am so
   stopped.
   LENIS positive for DVT, started on heparin. Checked with NS later given
   bolt removal and made the SS much less agressive. Needs head CT soon
   (see below).
   ID recommended head/spine CT with contrast to eval for hidden focus of
   infection (abscess) given continued fevers. Ordered but then noticed
   that head CT would be worthless with EEG leads on. Readdress in am.
   Following commands well.
   Given 20mg IV lasix to help with diuresis, worked well.
   Restarted some home diltiazem (30 QID)
   Dilantin level still a little low, increased dose to 400mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2109-12-24**] 12:24 AM
   Cefipime - [**2109-12-25**] 04:19 AM
   Ceftriaxone - [**2109-12-26**] 12:00 AM
   Ampicillin - [**2109-12-26**] 05:50 AM
   Vancomycin - [**2109-12-26**] 06:20 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-12-25**] 08:06 AM
   Heparin Sodium - [**2109-12-25**] 12:24 PM
   Dilantin - [**2109-12-26**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient denies pain, sob, n/v
   Flowsheet Data as of  [**2109-12-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 99 (97 - 115) bpm
   BP: 130/73(90) {126/65(85) - 203/119(148)} mmHg
   RR: 23 (16 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,679 mL
                                                                  1,288 mL
   PO:
             TF:
                                                                    218 mL
                                                                     20 mL
   IVF:
                                                                  3,231 mL
                                                                  1,148 mL
   Blood products:
   Total out:
                                                                  5,750 mL
                                                                    830 mL
   Urine:
                                                                  5,750 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,071 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (420 - 561) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: 7.50/37/67/26/4
   Ve: 11.6 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   CXR
 c/w bilateral fluid overload per radiology
   LENI
 Partially occlusive left profunda femoral vein thrombus
   extending into common femoral vein consistent with DVT
   288 K/uL
   9.5 g/dL
   123 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.4 mEq/L
   3 mg/dL
   103 mEq/L
   141 mEq/L
   30.5 %
   12.8 K/uL
        [image002.jpg]
                            [**2109-12-24**]  05:17 AM
                            [**2109-12-24**]  11:31 AM
                            [**2109-12-24**]  04:24 PM
                            [**2109-12-24**]  05:38 PM
                            [**2109-12-25**]  03:35 AM
                            [**2109-12-25**]  08:05 AM
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
   WBC
   9.1
   8.6
   12.8
   Hct
   28.4
   27.8
   30.5
   Plt
   180
   208
   288
   Cr
   0.3
   0.3
   0.3
   TCO2
   23
   27
   26
   24
   23
   23
   30
   Glucose
   102
   126
   123
   Other labs: PT / PTT / INR:15.2/66.5/1.3, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:66/25, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.0 %, Lymph:20.4 %, Mono:3.2
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:359 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema and found to have meningitis complicated by respiratory failure
   and DVT
   # Fever: Low grade temperature this morning. CXR findings consistent
   with fluid overload or possible early pneumonia. Increasing
   leukocytosis also concerning for evolving infection. Other possible
   etiologies include known DVT, meningitis.
   - Will broaden CTX to cefepime for VAP coverage
   - Mini bal for sputum gram stain and culture
   - Appreciate ID input
   - CT head and C spine per ID to evaluate for abscess
   - Continue Vanco/ampillin as noted below
   # Hypoxemia/Respiratory status: Mild hypoxemia this morning on Fi02
   50%. Likely related to some degree of fluid or possible infection.
   Small possibility of hypertenive flash pulmonary edema (see below)
   - restart AC setting on vent
   - lasix 20 mg Ivx1 with goal I/o negative 2 L
   - Antibiotics as noted above
   - Htn ad discussed below
   #  Meningitis: Mental status continues to improve. Febrile and
   leukocoytosis may be related to lung source vs CNS source. Head CT with
   contrast from OSH not sufficient to assess for subtle intracranial
   infection/leptomeningial disease.  Continuous EEG showed possible
   seizure activity and completed today. Dilantin level approaching
   therapeutic with increase dose.
   - HOB elevation
   - Maintain Na>140
   - Vanc/Cefepime/ampicillin
   - follow CSF/blood cultures/sputum cultures
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - Con
t dilantin per neuro recs
   # DVT: LLE DVT on LENI yesterday. Possible source of fevers. Now on
   heparin drip with approval from Neurosurgery with goal PTT 60
80. Can
   not consider Lovenox given patient weight.
   # Hypertension: Pattern consistent with repiratory issues cause
   hypertension, rather than vice versa. Restarted diltiazem yesterday.
   Home dose of atenolol 25 mg daily, and she may be having some beta
   blocker withdrawal given htn/tachycardia.
   - Start metoprolol 25 [**Hospital1 **] for shorter acting beta blocker coverage
   - Consider increase diltiazem if tolerated
   - lasix as above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: PICC line request
   Multi Lumen - [**2109-12-19**] 05:20 PM
   Arterial Line - [**2109-12-22**] 12:51 AM
 FAILED this morning
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU for now
   :
   ------ Protected Section ------
   I have seen and examined the patient and agree substantially with the
   assessment and plan with the following modifcations/emphasis:
   Overnight, received heparin, mental status continues to improve, but
   failed SBT because of oxygen desaturation/htn.  Noted to have copious
   secretions this morning.
   T 38.1  P 99  BP  130/73  RR 23  Sat: 94%
   Intubated but awake
   Coarse BS
   S1 S2 reg
   Abd: soft, obese
   Ext: +[**1-4**] bilateral edema
   Labs and radiographs as above
   Assessment:
   1)       meninigitis
   2)       acute respiratory failure
   3)       seizures
   4)       dvt
   Plan:
   1)       Continue to diuresis
   2)       Change Ceftriaxone to Cefepime to cover for HAP/VAP as well as
   meningitis
   3)       Continue heparin
 hold temporally for PICC line placement
   today
   4)       PICC line
   5)       Continue seizure prophylaxis
   Time Spent: 35 minutes
   Patient is critically Ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2109-12-26**] 03:57 PM ------

2109-12-27 07:01:00 Physician Resident Progress Note
Chief Complaint: Meningitis
   24 Hour Events:
 BLOOD CULTURED - At [**2109-12-26**] 10:00 AM
 URINE CULTURE - At [**2109-12-26**] 10:00 AM
 ARTERIAL LINE - STOP [**2109-12-26**] 11:08 AM
 MULTI LUMEN - STOP [**2109-12-27**] 12:00 AM
 MULTI LUMEN - START [**2109-12-27**] 01:16 AM
   NOT central access
 FEVER - 102.8
F - [**2109-12-26**] 05:00 PM
   -- Mini-BAL performed, pt became hypoxic afterwards and FiO2
   temporarily increased to 100%, but easy to wean down to 50% after
   settled down.
   -- with continued fevers, patient changed back to cefepine
   -- Could not have PICC line placed with re-spike of 102.  Difficult
   time, but l subclavian placed. RIJ sent for cx.
   -- Held off on CT scan as they called for her when she became hypoxic,
   then CVL placement.
   -- Changed phenytoin to fosphenytoin because phenytoin can not been
   used in PICC lines
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-26**] 12:00 AM
   Cefipime - [**2109-12-27**] 04:00 AM
   Vancomycin - [**2109-12-27**] 06:00 AM
   Ampicillin - [**2109-12-27**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Dilantin - [**2109-12-26**] 09:00 AM
   Furosemide (Lasix) - [**2109-12-26**] 11:15 AM
   Midazolam (Versed) - [**2109-12-26**] 07:01 PM
   Fentanyl - [**2109-12-26**] 07:01 PM
   Famotidine (Pepcid) - [**2109-12-26**] 08:00 PM
   Fosphenytoin - [**2109-12-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, SOB, Nausea
   Flowsheet Data as of  [**2109-12-27**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.6
C (101.4
   HR: 88 (87 - 119) bpm
   BP: 93/57(64) {93/56(64) - 159/97(112)} mmHg
   RR: 28 (9 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 3 (2 - 8)mmHg
   Total In:
                                                                  3,239 mL
                                                                  1,188 mL
   PO:
   TF:
                                                                     20 mL
   IVF:
                                                                  2,979 mL
                                                                  1,098 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    540 mL
   Urine:
                                                                  3,410 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -171 mL
                                                                    648 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 550 (430 - 550) mL
   Vt (Spontaneous): 469 (469 - 469) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 93%
   VBG: 7.58/28/50/27
   Ve: 15.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Sedated but easily arousable
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   PERRL, Blinks to threat
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: Clear To auscultation bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows basic commands,
   Labs / Radiology
   291 K/uL
   8.3 g/dL
   109 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   5 mg/dL
   102 mEq/L
   138 mEq/L
   25.5 %
   11.4 K/uL
        [image002.jpg]
                            [**2109-12-24**]  04:24 PM
                            [**2109-12-24**]  05:38 PM
                            [**2109-12-25**]  03:35 AM
                            [**2109-12-25**]  08:05 AM
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
   WBC
   8.6
   12.8
   11.4
   Hct
   27.8
   30.5
   25.5
   Plt
   [**Telephone/Fax (3) 10050**]
   Cr
   0.3
   0.3
   0.4
   0.4
   TCO2
   27
   26
   24
   23
   23
   30
   Glucose
   126
   123
   126
   109
   Other labs: PT / PTT / INR:15.6/46.6/1.4, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:66/25, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.0 %, Lymph:20.4 %, Mono:3.2
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:359 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Vanco 42.4
   Phenytoin 12.1
   [1][**2109-12-27**]
   CATHETER TIP-IV
   WOUND CULTURE-PENDING
   INPATIENT
   [2][**2109-12-26**]
   Mini-BAL
   GRAM STAIN-Negative; NGTD
   INPATIENT
   [3][**2109-12-26**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2109-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2109-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2109-12-24**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; LEGIONELLA
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [7][**2109-12-24**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [8][**2109-12-24**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema and found to have meningitis complicated by respiratory failure,
   possible VAP and DVT
   # Fever: Febrile yesterday to 102.8 despite broadened antibiotic
   coverage for VAP. Respiratory secretions continue to be copious.
   Central line removed and sent for culture, and mini bal performed
   yesterday, however no organisms were seen on GS. Leukocytosis stable
   since yesterday. CXR findings could be consistent with early multilobar
   pneumonia.
   - Continue Cefepime for VAP coverage
   - follow up minibal results
   - Appreciate ID input
   - CT head and C spine per ID to evaluate for abscess
   - Continue Vanco/ampillin as noted below. Hold vanco for now pending
   level tomorrow morning
   # Hypoxemia/Respiratory status: Hypoxemic after BAL yesterday, and
   continued hypoxemia on gas this morning. However, sats now improved.
   Likely related to some degree of fluid or possible infection. Did not
   meet I/O goal yesterday.
   - lasix 20 mg Ivx1 with goal I/o negative 1 L
   - Restart Pressure support ventilation after radiographic studies
   - Antibiotics as noted above
   #  Meningitis: Mental status continues to improve. Febrile and
   leukocoytosis may be related to lung source vs CNS source. Head CT with
   contrast from OSH not sufficient to assess for subtle intracranial
   infection/leptomeningial disease.  Continuous EEG showed possible
   seizure activity and completed today. Dilantin level approaching
   therapeutic with increase dose. Change phenytoin to fosphenytoin
   yesterday.
   - HOB elevation
   - Follow up CT head from today re: change in cerebral edema
   - Touch base with Neurosurg re: importance of maintaining Na>140 with
   hypertonic saline
   - Vanc/Cefepime/ampicillin
   - follow CSF/blood cultures/sputum cultures
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - Phenytoin changed to fosphenytoin and will need to adjust for albumin
   and weight
   # Constipation: Uptitrate bowel regimen and check LFTs. Consider RUQ
   u/s if LFTs abnormal.
   # DVT: LLE DVT on LENI [**12-25**]. Now on heparin drip with approval from
   Neurosurgery with goal PTT 60
80. Start low dose coumadin given patient
   on several antibiotics.
   - Coumadin 5 mg daily
   - Continue heparin drip
   # Hypertension: Blood pressure much better controlled over last 24
   hours after starting betablocker. Pattern consistent with repiratory
   issues cause hypertension, rather than vice versa. Restarted diltiazem
   yesterday. Home dose of atenolol 25 mg daily, and she may be having
   some beta blocker withdrawal given htn/tachycardia.
   - Continue metoprolol and diltiazem. Will restart home atenolol once
   more stable.
   - lasix as above
   ICU Care
   Nutrition: TFs
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2109-12-25**] 04:30 PM
   Multi Lumen - [**2109-12-27**] 01:16 AM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: H2 blocker
   VAP:  HOB evelation, mouth care, daily wake up, RSBI
   Comments:
   Communication:  Comments:  ICU consent signed
   Code status: Full code
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);

2109-12-27 08:03:00 Physician Attending Progress Note
Chief Complaint: meningitis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 y o lady with morbid obesity, admitted with obtundation, found to
   have meningitis, course c/b respiratory failure and DVT.
   24 Hour Events:
   Mini-BAL performed, transient hypoxemia, then resolved
   Fever to 102.8 yesterday PM
 new L SC line placed, R IJ out
   CT head/spine done this morning
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2109-12-27**] 04:00 AM
   Ampicillin - [**2109-12-27**] 06:00 AM
   Vancomycin - [**2109-12-27**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Dilantin - [**2109-12-26**] 09:00 AM
   Furosemide (Lasix) - [**2109-12-26**] 11:15 AM
   Midazolam (Versed) - [**2109-12-26**] 07:01 PM
   Fentanyl - [**2109-12-26**] 07:01 PM
   Famotidine (Pepcid) - [**2109-12-26**] 08:00 PM
   Fosphenytoin - [**2109-12-27**] 12:00 AM
   Other medications:
   Famotidine
   Chlorhexidine
   ISS
   Atrovent MDI
   Diltiazem 30 QID
   Colace
   Heparin IV SS
   Metoprol 12.5 [**Hospital1 **]
   Fosphenytoin 400 TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-27**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.6
C (101.4
   HR: 92 (87 - 119) bpm
   BP: 102/65(73) {93/56(64) - 159/97(112)} mmHg
   RR: 28 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 3 (2 - 8)mmHg
   Total In:
                                                                  3,239 mL
                                                                  1,222 mL
   PO:
   TF:
                                                                     20 mL
   IVF:
                                                                  2,979 mL
                                                                  1,132 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    540 mL
   Urine:
                                                                  3,410 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -171 mL
                                                                    682 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 550 (430 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 95%
   ABG: ///25/
   Ve: 15.5 L/min
   Physical Examination
   Gen: intubated, sedated, follows commands
   Neck: supple, no palpable R IJ hematoma
   Chest: CTA anteriorly
   CV: rrr, no murmurs
   Abd: soft, diffuse tenderness to deep palpation, + BS
   Extr: warm, trace LE edema
   Labs / Radiology
   8.3 g/dL
   291 K/uL
   109 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   5 mg/dL
   102 mEq/L
   138 mEq/L
   25.5 %
   11.4 K/uL
        [image002.jpg]
                            [**2109-12-24**]  04:24 PM
                            [**2109-12-24**]  05:38 PM
                            [**2109-12-25**]  03:35 AM
                            [**2109-12-25**]  08:05 AM
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
   WBC
   8.6
   12.8
   11.4
   Hct
   27.8
   30.5
   25.5
   Plt
   [**Telephone/Fax (3) 10050**]
   Cr
   0.3
   0.3
   0.4
   0.4
   TCO2
   27
   26
   24
   23
   23
   30
   Glucose
   126
   123
   126
   109
   Other labs: PT / PTT / INR:15.6/46.6/1.4, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:66/25, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.0 %, Lymph:20.4 %, Mono:3.2
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:359 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   vBG: 7.58/28/50 on 50%
   Vanco: 42.4
   Dilantin: 12.1
   Micro:
   R IJ tip Cx: NG
   Blood cx [**12-24**], [**12-26**]: NG
[**2109-12-26**] 1:45 pm Mini-BAL      BRONCHIAL LAVAGE.
   GRAM STAIN (Final [**2109-12-26**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Studies:
   CXR [**12-26**]:
   FINDINGS: As compared to the previous radiograph, the distal end of the
   left
   subclavian catheter projects over the distal brachiocephalic vein. The
   right
   central venous access line, the endotracheal tube and the nasogastric
   tube are
   in unchanged position. No evidence of complication, notably no
   pneumothorax.
   Unchanged size of the cardiac silhouette. Unchanged retrocardiac
   opacity
   suggesting atelectasis. The right lung base is better ventilated than
   on the
   previous image.
   Assessment and Plan
   53F with meningitis but no pathogen identified, course c/b VAP,
   persistent fevers, and DVT.
   1.  Meningitis:  WBC improved initially, then back up yesterday,
   trending down again today. Has persistent fevers, mental status
   improving and now able to follow commands.
   - currently on vancomycin, ampicillin, cefipime (hold vanco till
   tomorrow, recheck trough tomorrow)
   - no steroids per d/w ID
   - f/up head/spine CT results re: ?abscess
   2.  Seizures:  EEG positive, mental status improving with dilantin,
   changed to phosphenytoin for central administration.
   - continue phosphenytoin
   - will check albumin today to adjust dilantin level
   - will clarify with NSG re: Na goal (138 today)
   3.  Respiratory Failure:  Intubated in setting of hypoxemia and airway
   protection.  Primary barrier to extubation was her mental status, which
   is improving slowly.  Now treating for VAP.  Secretions copious, but
   slightly improved from yesterday.
   - wean PEEP, FiO2 as tolerated
   - change to PS today
   - lasix 20 IV x 1 now with TBB goal even to slightly neg 500 ccs
   - f/up chest CT results today
   4.  Fevers:  All cultures negative to date, LENIs + DVT, on heparin
   now, still febrile. Line changed yest (new L SC CVC).
   - f/up final cultures (blood, mini BAL)
   - f/up CT results (head/spine/chest)
   5. DVT: heparin gtt, no lovenox given body habitus.  No major
   procedures anticipated in next few days.
   - start coumadin 5 mg today
   6. HTN: restarted BBL at low dose yest, on home dose of diltiazem
   7. Abdominal pain: diffuse mild TTP, nods to ? re
 abd pain
, no BM
   since admission
   - check LFTs, [**Doctor First Name **]/lipase
   - bowel regimen
   ICU Care
   Nutrition: TFs
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2109-12-25**] 04:30 PM
   Multi Lumen - [**2109-12-27**] 01:16 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation, chlorhexidine, mouth care
   Communication:  will update family
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 min CCT

2109-12-28 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: menigitis
   24 Hour Events:
 MULTI LUMEN - STOP [**2109-12-28**] 05:40 AM
   NOT central access
   -- CT Head - No abscess. Mild atherosclerotic calcification
   -- CT Chest - Bilateral lower lobe atelectasis, right greater than left
   (segmenetal), possible superimposed infectious component given small
   foci ground glass opacity. Large right thyroid nodule; non-urgent
   ultrasound recommended.
   -- CT Spine -  Technically very limited study. Pneumonic infiltrates in
   both lungs, more evident on the right side. Right renal cystic mass. No
   obvious abscess.
   -- Subclavian line suboptimally placed too proximally (not quite in
   SVC) but already hubbed to skin. Plan to treat as central line in terms
   of medicaion dosages.
   -- Repeat Hct stable - 30.5 > 25.5 > 26.7
   -- Neuro surgery re: Na Goal - No need to continue Hypertonic saline if
   mental status improved and edema improved
   -- Started Coumadin 5 mg daily for DVTs bridge from heparin
   -- Put back on Pressure Support and decreased Versed from 2 to 1
   -- Added free dilantin level
   -- ID - hold vanco, continue other abx for now, recheck vanco level in
   AM
   -- Held Vanco for supratherapeutic level at 44
   -- Uptitrated bowel regimen for lack of stool over past week. Passing
   flatus. LFTs Normal. Copious stool by the late afternoon.
   -- OG tube at GE junction so advanced by RN 5 cm
   -- Net even at 8 pm. Got lasix 20 mg IVx1
   -- Lost Central line at 0500. Two working peripherals.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-26**] 12:00 AM
   Vancomycin - [**2109-12-27**] 06:00 AM
   Cefipime - [**2109-12-28**] 04:00 AM
   Ampicillin - [**2109-12-28**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2109-12-27**] 09:00 AM
   Furosemide (Lasix) - [**2109-12-27**] 03:30 PM
   Coumadin (Warfarin) - [**2109-12-27**] 04:34 PM
   Famotidine (Pepcid) - [**2109-12-27**] 08:00 PM
   Fosphenytoin - [**2109-12-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-28**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 102 (90 - 113) bpm
   BP: 106/62(71) {90/50(59) - 141/91(95)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 8 (2 - 15)mmHg
   Total In:
                                                                  3,089 mL
                                                                    889 mL
   PO:
   TF:
                                                                    381 mL
                                                                    385 mL
   IVF:
                                                                  2,138 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                    480 mL
   Urine:
                                                                  3,095 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -6 mL
                                                                    410 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 453 (357 - 581) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 21
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 29 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   351 K/uL
   7.9 g/dL
   106 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   25.6 %
   9.9 K/uL
        [image002.jpg]
                            [**2109-12-25**]  03:35 AM
                            [**2109-12-25**]  08:05 AM
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
   WBC
   8.6
   12.8
   11.4
   9.9
   Hct
   27.8
   30.5
   25.5
   26.7
   25.6
   Plt
   [**Telephone/Fax (3) 10060**]51
   Cr
   0.3
   0.3
   0.4
   0.4
   0.3
   TCO2
   24
   23
   23
   30
   Glucose
   126
   123
   126
   109
   106
   Other labs: PT / PTT / INR:15.6/41.0/1.4, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:15/17, Alk Phos / T Bili:55/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.0 %, Lymph:20.4 %, Mono:3.2
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:307 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: CT Head:
   No definite sign of a brain abscess. Please note that this study
   is very insensitive in the detection of meningeal inflammatory disease.
   CT C-spine:
   Technically limited study. Right thyroid lobe mass.
   COMMENT: It is impossible, on the basis of this study to exclude
   meningeal or
   epidural inflammatory disease. Even with MRI scanning, meningeal
   inflammatory
   disease detection can be problem[**Name (NI) **]
   CT T/L Spine:
    Technically very limited study. Pneumonic infiltrates in both
   lungs, more evident on the right side. Right renal cystic mass.
   Suboptimal
   position of left central venous line.
   CT Chest:
   1. Segmental atelectasis at lung bases.
   2. Infectious component difficult to exclude on the left.
   2. ETT tube 2.5 cm above the carina, somewhat low in position.
   3. NGT with sideport slightly above the GE junction, needs advancement.
   4. Coronary artery calcifications.
   5. Large right thyroid nodule; non-urgent ultrasound recommended.
   6. Cholelithiasis.
   Microbiology: Blood cx [**12-26**]: NGTD
   Urine Cx [**12-26**]: NGTD
   [**2109-12-26**] 1:45 pm Mini-BAL      BRONCHIAL LAVAGE.
      GRAM STAIN (Final [**2109-12-26**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED
   [**2109-12-27**] 1:22 am CATHETER TIP-IV      Source: RIJ CVL.
      WOUND CULTURE (Pending):
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema and found to have meningitis complicated by respiratory failure,
   possible VAP and DVT
   # Fever:  Now relatively afebrile x 24 hours after pulling RIJ central
   line and broadening antibiotics to cefepime. CT Head/spine without
   extra focus of infection. CT chest showing PNA.
   - Continue Cefepime for VAP coverage
   - follow up minibal results
   - Appreciate ID input
   - Continue Vanco/ampillin as noted below.
   # Hypoxemia/Respiratory status: Hypoxemic after BAL . However, sats now
   improved.  Likely related to some degree of fluid or possible
   infection. Did not meet I/O goal yesterday.
   - lasix 20 mg Ivx1 with goal I/o negative 1 L
   - Restart Pressure support ventilation after radiographic studies
   - Antibiotics as noted above
   #  Meningitis: Mental status continues to improve. Febrile and
   leukocoytosis may be related to lung source vs CNS source. Head CT with
   contrast from OSH not sufficient to assess for subtle intracranial
   infection/leptomeningial disease.  Continuous EEG showed possible
   seizure activity and completed today. Dilantin level approaching
   therapeutic with increase dose. Changed phenytoin to fosphenytoin. CT
   head showed slight improvement in edema
   - HOB elevation
   - no need for further hypertonic to keep Na >140
   - Vanc/Cefepime/ampicillin
   - follow CSF/blood cultures/sputum cultures
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - Phenytoin changed to fosphenytoin and will need to adjust for albumin
   and weight, f/u lvl
   # Constipation: Uptitrate bowel regimen
   # DVT: LLE DVT on LENI [**12-25**]. Now on heparin drip with approval from
   Neurosurgery with goal PTT 60
80. Started low dose coumadin given
   patient on several antibiotics.
   - Coumadin 5 mg daily
   - Continue heparin drip
   # Hypertension: Blood pressure much better controlled over last 24
   hours after starting betablocker. Pattern consistent with repiratory
   issues cause hypertension, rather than vice versa. Restarted diltiazem
   yesterday. Home dose of atenolol 25 mg daily, and she may be having
   some beta blocker withdrawal given htn/tachycardia.
   - Continue metoprolol and diltiazem. Will restart home atenolol once
   more stable.
   - lasix as above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2109-12-28**] 02:08 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-28**] 05:48 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-12-28 07:58:00 Physician Attending Progress Note
Chief Complaint: meningitis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 53 y o lady with morbid obesity, admitted with obtundation, found
   to have meningitis, course c/b respiratory failure and DVT.
   24 Hour Events:
   1. CT chest done with B atelectasis vs. PNA, CT head/spine w/out
   abscess
   2. Changed to PS, PEEP weaned from 14 to 10
   3. Subclavian line came out early am
   4. No more Na goals per NSG
   History obtained from Patient, Family / Friend
   [**Name (NI) **] unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2109-12-26**] 12:00 AM
   Vancomycin - [**2109-12-27**] 06:00 AM
   Cefipime - [**2109-12-28**] 04:00 AM
   Ampicillin - [**2109-12-28**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2109-12-27**] 09:00 AM
   Furosemide (Lasix) - [**2109-12-27**] 03:30 PM
   Coumadin (Warfarin) - [**2109-12-27**] 04:34 PM
   Famotidine (Pepcid) - [**2109-12-27**] 08:00 PM
   Fosphenytoin - [**2109-12-28**] 12:00 AM
   Other medications:
   Lasix 20 IV x 1 today
   Chlorhexidine
   Pepcid 20 Q12
   ISS
   Atrovent
   Diltiazem 30 QID
   Colace
   Metoprolol 12.5 [**Hospital1 **]
   Fosphenytoin 400 Q8
   Warfarin 5 mg daily
   Ampicillin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-28**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 102 (90 - 113) bpm
   BP: 106/62(71) {90/50(59) - 141/91(95)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 8 (2 - 15)mmHg
   Total In:
                                                                  3,089 mL
                                                                    973 mL
   PO:
   TF:
                                                                    381 mL
                                                                    440 mL
   IVF:
                                                                  2,138 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                    480 mL
   Urine:
                                                                  3,095 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -6 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 453 (357 - 581) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 21
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 29 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 7.4 L/min
   Physical Examination
   Gen: intubated, awake, follows commands
   Chest: rhonchi at B bases
   CV: RRR, no murmurs
   Abd: soft, obese, diffusely tender to deep palpation, no R/G
   Extr: warm, trace LE edema
   Labs / Radiology
   7.9 g/dL
   351 K/uL
   106 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   25.6 %
   9.9 K/uL
        [image002.jpg]
                            [**2109-12-25**]  03:35 AM
                            [**2109-12-25**]  08:05 AM
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
   WBC
   8.6
   12.8
   11.4
   9.9
   Hct
   27.8
   30.5
   25.5
   26.7
   25.6
   Plt
   [**Telephone/Fax (3) 10060**]51
   Cr
   0.3
   0.3
   0.4
   0.4
   0.3
   TCO2
   24
   23
   23
   30
   Glucose
   126
   123
   126
   109
   106
   Other labs: PT / PTT / INR:15.6/41.0/1.4, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:15/17, Alk Phos / T Bili:55/0.4,
   Amylase / Lipase:/10, Differential-Neuts:74.0 %, Lymph:20.4 %, Mono:3.2
   %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:307 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Vanco: 4.6
   Micro:
   No positive blood cultures
[**2109-12-26**] 1:45 pm Mini-BAL      BRONCHIAL LAVAGE.
   GRAM STAIN (Final [**2109-12-26**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Imaging:
   CXR [**12-28**]:
   FINDINGS: As compared to the previous examination, the monitoring and
   support
   devices are in unchanged position. Unchanged moderate cardiomegaly, the
   extent of the pre-existing retrocardiac atelectasis has decreased. The
   appearance of the ventilated lung parenchyma is unchanged, there is no
   evidence of interval appearance of pneumonia. No overt pulmonary edema.
   CT head [**12-27**]:
   CONCLUSION: No definite sign of a brain abscess. Please note that this
   study
   is very insensitive in the detection of meningeal inflammatory disease.
   CT chest [**12-27**]:
   IMPRESSION:
   1. Segmental atelectasis at lung bases.
   2. Infectious component difficult to exclude on the left.
   2. ETT tube 2.5 cm above the carina, somewhat low in position.
   3. NGT with sideport slightly above the GE junction, needs advancement.
   4. Coronary artery calcifications.
   5. Large right thyroid nodule; non-urgent ultrasound recommended.
   6. Cholelithiasis.
   Assessment and Plan
   53F with meningitis but no pathogen identified, course c/b VAP,
   persistent fevers, and DVT.
   1.  Meningitis:  WBC improved initially, then back up yesterday,
   trending down again today. Has persistent fevers, mental status
   improving and now able to follow commands.  No abscess on head/spine CT
   from yesterday.
   - currently on vancomycin (changing to 1250 Q8 per ID), ampicillin,
   cefipime x 2 weeks total course per ID
   - no steroids per d/w ID
   2.  Seizures:  EEG positive, mental status improving with dilantin,
   changed to phosphenytoin for central administration.
   - change back to dilantin as trying to minimize IV meds with access
   problems
   - no more [**Name (NI) **] goals per NSG (s/p hypertonic saline)
   3.  Respiratory Failure:  Intubated in setting of hypoxemia and airway
   protection.  Primary barrier to extubation was her mental status, which
   is improving slowly.  Now treating for VAP.  Secretions copious, and
   increasing today.   Chest CT with bilateral atel vs. consolidation, esp
   in LLL.  Stable on PS, but with high PEEP.
   - wean PEEP today
   - lasix 20 IV x 1 again this am  TBB goal neg 1 L
   4.  Fevers:  now resolved, low grade T max of 100.3  All cultures
   negative to date, LENIs + DVT, on heparin now. Line changed  [**11-26**] (new
   L SC CVC).
   - f/up final cultures (blood, mini BAL)
   5. DVT: heparin gtt, no lovenox given body habitus.  No major
   procedures anticipated in next few days.  Started coumadin yesterday.
   - continue heparin gtt + coumadin
   - check INR today
   6. HTN: restarted BBL at low dose, on home dose of diltiazem
   7. Abdominal pain: diffuse mild TTP, nods to ? re
 abd pain
, had a BM
   yesterday.  Transaminases normal, alk phos stable.
   - check [**Doctor First Name **]/lipase
   - continue bowel regimen
   - KUB today
   8. Anemia: 3 pt hematocrit drop yest, stable today, c/o diffuse abd
   pain
   - stool guaiac
   - consider adding PPI to H2 blocker
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2109-12-28**] 02:08 AM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-12-28**] 05:48 AM
   Prophylaxis:
   DVT: on heparin gtt
   Stress ulcer: Pepcid
   VAP: HOB elevation, mouth care, chlorhexidine
   Communication: will update family
   Code status: Full code
   Disposition : ICU
   Total time spent:  35 min CCT

2109-12-29 09:52:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Continues with Right sided abdominal pain. KUB unremarkable.
   Amylase/lipase 150s. Changed to po dilantin, diuresed aggressively.
   PEEp weaned to 10. PICC could not be threaded.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-29**] 12:05 AM
   Ampicillin - [**2109-12-29**] 04:00 AM
   Cefipime - [**2109-12-29**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,850 units/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2109-12-28**] 12:00 PM
   Heparin Sodium - [**2109-12-28**] 12:07 PM
   Fentanyl - [**2109-12-28**] 07:23 PM
   Famotidine (Pepcid) - [**2109-12-28**] 08:00 PM
   Furosemide (Lasix) - [**2109-12-28**] 11:20 PM
   Other medications:
   fentanyl 175, chlorhexidine, ranitidine, RISS, atrovent, diltiazem,
   docusate, heparin iv, metoprolol, cefepime, coumadin, vancomycin,
   ampicillin, phynetoin, cefepime.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-29**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.4
C (97.5
   HR: 87 (87 - 124) bpm
   BP: 105/48(60) {97/48(60) - 148/87(97)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,213 mL
                                                                  1,024 mL
   PO:
             TF:
                                                                    795 mL
   IVF:
                                                                  1,809 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                  6,480 mL
                                                                  1,640 mL
   Urine:
                                                                  6,180 mL
                                                                  1,640 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -3,267 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (418 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, tender in the RUQ
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   415 K/uL
   130 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   6 mg/dL
   100 mEq/L
   138 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                            [**2109-12-25**]  08:05 AM
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
                            [**2109-12-29**]  03:29 AM
   WBC
   12.8
   11.4
   9.9
   11.0
   Hct
   30.5
   25.5
   26.7
   25.6
   25.6
   Plt
   288
   291
   351
   415
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   TCO2
   24
   23
   23
   30
   Glucose
   123
   126
   109
   106
   130
   Other labs: PT / PTT / INR:17.1/66.1/1.5, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:15/17, Alk Phos / T Bili:55/0.4,
   Amylase / Lipase:277/243, Differential-Neuts:74.0 %, Lymph:20.4 %,
   Mono:3.2 %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR with tubes in good position. some RLL infiltrate
   atelectasis vs pneumonia, LLL opacity worsened.
   Microbiology: none new.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY: on heparin iv
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   repeat sputum cultures, may be related to pancreatitis. f/u TG, obtain
   ultrasound of the abdomen to rule out cholelithiasis. Keep NPO. No
   clear drug offendors for pancreatitis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):
   still wiht copious secretions, will wean FiO2 to 40%, and reattempt to
   wean peep to 5 later today if stable. Continue with pulmonary toilet.
   Repeat chest CT. continue lasix given LOS +10L and LE edema.
 Hypertension: well controlled.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-28**] 09:07 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments: Will consult Social work re concern for
   brother and possible substance abuse.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw & examined the pt, & was present w/the ICU team for the key
   portions of services provided. I agree with Dr. [**First Name (STitle) 8379**]
s note,
   including assessment and plan. 52 yo female with morbid obesity
   admitted with severe meningitis and acute respiratory failure, course
   also notable for DVT. Mental status continuing to improve, remains
   intubated with high PEEP requirements, but we are making progress on
   ventilator wean. Will continue to work on diuresis, decrease PEEP as
   tolerated, SBT/extubation when able.
   Pt is critically ill . Total time spent: 32 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2109-12-29**] 14:13 ------

2109-12-30 07:20:00 Physician Resident Progress Note
Chief Complaint: Meningitis
   24 Hour Events:
   -- Patinet w/ continued RUQ pain, lipase rising. RUQ u/s limited but
   normal. TG also WNL.
   -- Still with heavy secreations, resent for culture
   -- Dropped to PEEP of 8, but patient didnt' tolerate went back to 10
   -- Patient gagging on ET tube, had to increase sedation, so may not be
   able to extuabe this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-30**] 01:00 AM
   Ampicillin - [**2109-12-30**] 04:30 AM
   Cefipime - [**2109-12-30**] 05:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-12-29**] 08:00 AM
   Furosemide (Lasix) - [**2109-12-29**] 12:00 PM
   Fentanyl - [**2109-12-29**] 05:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 93 (86 - 122) bpm
   BP: 129/47(67) {100/47(61) - 149/80(93)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,410 mL
                                                                  1,275 mL
   PO:
             TF:
   IVF:
                                                                  2,750 mL
                                                                  1,155 mL
   Blood products:
   Total out:
                                                                  5,895 mL
                                                                  1,130 mL
   Urine:
                                                                  5,895 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,485 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (399 - 499) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RUQ,
   Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   444 K/uL
   7.8 g/dL
   113 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   4 mg/dL
   98 mEq/L
   137 mEq/L
   25.3 %
   10.0 K/uL
        [image002.jpg]
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
                            [**2109-12-29**]  03:29 AM
                            [**2109-12-30**]  05:07 AM
   WBC
   12.8
   11.4
   9.9
   11.0
   10.0
   Hct
   30.5
   25.5
   26.7
   25.6
   25.6
   25.3
   Plt
   288
   291
   351
   415
   444
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.4
   TCO2
   23
   23
   30
   Glucose
   123
   126
   109
   106
   130
   113
   Other labs: PT / PTT / INR:27.4/67.2/2.7, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:15/17, Alk Phos / T Bili:55/0.4,
   Amylase / Lipase:277/90, Differential-Neuts:74.0 %, Lymph:20.4 %,
   Mono:3.2 %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema and found to have meningitis complicated by respiratory failure,
   possible VAP and DVT
   # Fever:  Now relatively afebrile x 24 hours after pulling RIJ central
   line and broadening antibiotics to cefepime. CT Head/spine without
   extra focus of infection. CT chest showing PNA.  Could be related to
   new pacreatitis.
   - Continue Cefepime for VAP coverage
   - follow up minibal results
   - Recheck sputum culture today given increased secretions recently.
   -Increase dose of vanc given low lvl today
   - Appreciate ID input
   - Continue Vanco/ampillin as noted below.
   # Hypoxemia/Respiratory status: Hypoxemic after BAL . However, sats now
   improved.  Likely related to some degree of fluid or possible
   infection. Did not meet I/O goal yesterday.
   - lasix 20 mg Ivx1 with goal I/o negative 1 L
   - PS ventilation, ween PEEP as tolerated, goal <10 today
   - Antibiotics as noted above
   .
   # Abd.pain/pancreatitis: Worsening today even after holding TF
   yesterday. Only possible drug cause is lasix.
   -NPO
   -Pain control with fentanyl
   -Check triglycerides
   -RUQ U/S
   #  Meningitis: Mental status continues to improve. Febrile and
   leukocoytosis may be related to lung source vs CNS source. Head CT with
   contrast from OSH not sufficient to assess for subtle intracranial
   infection/leptomeningial disease.  Continuous EEG showed possible
   seizure activity and completed today. Dilantin level approaching
   therapeutic with increase dose. Changed phenytoin to fosphenytoin. CT
   head showed slight improvement in edema
   - HOB elevation
   - no need for further hypertonic to keep Na >140
   - Vanc/Cefepime/ampicillin x 2 weeks total
   - follow CSF/blood cultures/sputum cultures
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - Change fosphenytoin to PO dilanting
   # Constipation: Uptitrated bowel regimen
   # DVT: LLE DVT on LENI [**12-25**]. Now on heparin drip with approval from
   Neurosurgery with goal PTT 60
80. Started low dose coumadin given
   patient on several antibiotics.
   - Coumadin 5 mg daily
   - Continue heparin drip
   # Hypertension: Blood pressure much better controlled over last 24
   hours after starting betablocker. Pattern consistent with repiratory
   issues cause hypertension, rather than vice versa. Restarted diltiazem
   yesterday. Home dose of atenolol 25 mg daily, and she may be having
   some beta blocker withdrawal given htn/tachycardia.
   - Continue metoprolol and diltiazem. Will restart home atenolol once
   more stable.
   - lasix as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-12-30**] 12:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-12-28**] 09:07 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2109-12-30 09:41:00 Physician Attending Progress Note
Chief Complaint: 53 yo woman with history of morbid obesity sp bypass
   '[**00**], admitted [**2109-12-18**] with meningitis (no organism identified) with
   cerebral edema requiring intracranial pressure monitoring and status
   epilepticus.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -complaining of vague RUQ pain, with elevated amylase and lipase.  RUQ
   unrevealing
   -weaned to PEEP 8 but with subjective dyspnea, PEEP back up to 10
   -agitated overnight with increased cough, requiring increased fentanyl
   and midazolam for sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-30**] 01:00 AM
   Ampicillin - [**2109-12-30**] 04:30 AM
   Cefipime - [**2109-12-30**] 05:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-12-29**] 12:00 PM
   Fentanyl - [**2109-12-29**] 05:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-30**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 93 (86 - 122) bpm
   BP: 129/47(67) {100/47(61) - 149/78(92)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,410 mL
                                                                  1,338 mL
   PO:
             TF:
   IVF:
                                                                  2,750 mL
                                                                  1,218 mL
   Blood products:
   Total out:
                                                                  5,895 mL
                                                                  1,130 mL
   Urine:
                                                                  5,895 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,485 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (322 - 499) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ) anteriorly
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   444 K/uL
   113 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   4 mg/dL
   98 mEq/L
   137 mEq/L
   25.3 %
   10.0 K/uL
        [image002.jpg]
                            [**2109-12-25**]  11:56 AM
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
                            [**2109-12-29**]  03:29 AM
                            [**2109-12-30**]  05:07 AM
   WBC
   12.8
   11.4
   9.9
   11.0
   10.0
   Hct
   30.5
   25.5
   26.7
   25.6
   25.6
   25.3
   Plt
   288
   291
   351
   415
   444
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.4
   TCO2
   23
   23
   30
   Glucose
   123
   126
   109
   106
   130
   113
   Other labs: PT / PTT / INR:27.4/67.2/2.7, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:15/17, Alk Phos / T Bili:55/0.4,
   Amylase / Lipase:277/90, Differential-Neuts:74.0 %, Lymph:20.4 %,
   Mono:3.2 %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: vancomycin level 34.1
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   -continues on coumadin
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -unclear etiology at this point, CT C/A/P/head unremarkable
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -initially intubated for airway protection and subsequently for a VAP
   -placed on CPAP 10 40% FiO2.  If able to  tolerate for 30 minutes would
   consider extubation to CPAP 10 after placement of PICC
   -empiric treatment for VAP with cefepime although sputum cultures with
   just oral flora.  Decreasing secretions, only suctioned once this
   morning.  Mini BAL [**12-26**] with no growth
   -mild volume overload will continue with gentle diuresis
 ENCEPHALITIS
   -meningitis being treated with vancomycin, cefepime, and ampicillin.
   Vancomycin level elevated, will hold next dose and repeat trough prior
   to PM dose.  Will discuss with ID course of antibiotics.
   -limited access, will need PICC placement to finish course of
   antibiotics
Status epilepticus
   -now on fosphenytoin
 HYPERTENSION: continue diltiazem and metoprolol for blood pressure
   control
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-12-30**] 12:44 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: famotidine
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 min

2109-12-31 07:05:00 Physician Attending Progress Note
Chief Complaint:
   HPI: 53 yo woman with history of morbid obesity sp bypass '[**00**], admitted
   [**2109-12-18**] with meningitis (no organism identified) with cerebral edema
   requiring intracranial pressure monitoring and status epilepticus.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PICC line placed in IR yesterday
antibiotic course clarified with ID, needs total 14 day course of
   antibiotics
repeat vancomycin level 7.3, vancomycin redosed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2109-12-30**] 09:00 PM
   Ampicillin - [**2109-12-31**] 04:00 AM
   Vancomycin - [**2109-12-31**] 05:45 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-12-30**] 05:30 PM
   Other medications:
   Famotidine
   Diltiazem 30mg QID
   Lopressor 12.5mg TID
   Dilantin 400mg q8hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-31**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 98 (88 - 136) bpm
   BP: 135/59(78) {103/42(63) - 160/92(109)} mmHg
   RR: 17 (7 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,496 mL
                                                                    817 mL
   PO:
             TF:
   IVF:
                                                                  2,376 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                    320 mL
   Urine:
                                                                  3,900 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,404 mL
                                                                    497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (322 - 458) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   582 K/uL
   105 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   7 mg/dL
   98 mEq/L
   138 mEq/L
   25.7 %
   9.1 K/uL
        [image002.jpg] Sputum [**12-29**] refused, mini BAL [**12-26**] NGTD
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
                            [**2109-12-29**]  03:29 AM
                            [**2109-12-30**]  05:07 AM
                            [**2109-12-31**]  04:40 AM
   WBC
   12.8
   11.4
   9.9
   11.0
   10.0
   9.1
   Hct
   30.5
   25.5
   26.7
   25.6
   25.6
   25.3
   25.7
   Plt
   288
   291
   351
   [**Telephone/Fax (3) 10116**]
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.4
   0.4
   TCO2
   23
   30
   Glucose
   123
   126
   109
   106
   130
   113
   105
   Other labs: PT / PTT / INR:36.3/35.0/3.7, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:[**10-22**], Alk Phos / T Bili:63/0.5,
   Amylase / Lipase:277/74, Differential-Neuts:74.0 %, Lymph:20.4 %,
   Mono:3.2 %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   -continues on coumadin but INR supratherapeutic, dose decreased from 5
   to 4mg daily and will hold dose tonight
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -unclear etiology at this point, CT C/A/P/head unremarkable
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -initially intubated for airway protection and subsequently for a VAP,
   now resolved
   -on CPAP 10 able to pull in TV of 1.11L.
   -once patient in an upright position will stop all sedation and
   extubated to CPAP 10
   -continue diuresis for goal net out 1L daily while monitoring BUN/Cr,
   stable for now
   -empiric treatment for VAP with cefepime although sputum cultures with
   just oral flora.  Decreasing secretions, only suctioned once this
   morning.  Mini BAL [**12-26**] with no growth
 ENCEPHALITIS
   -meningitis being treated with vancomycin, cefepime, and ampicillin to
   finish 14 day course tomorrow
   -vancomycin dose adjusted from 1500mg q8hr to 1250 q8hr
   -PICC line placed
Status epilepticus now resolved
   -no longer needs frequent neuro checks
   -continue on dilantin
 HYPERTENSION: continue diltiazem and metoprolol for blood pressure
   control
elevated amylase and lipase: now trending down.  RUQ US unremarkable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2109-12-30**] 05:00 PM
   Prophylaxis:
   DVT: on coumadin
   Stress ulcer: on famotidine
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU today
   Total time spent: 45 min

2109-12-31 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- IR guided picc placed!!!
   -- Clarified Antibiotic course. Day 12 of 14 for Meningitis TODAY
   -- Lasix 20 mg IV x1 in PM
   -- Vanco supratherapeutic at AM. Repeat level 7.3
   -- Reduced Coumadin from 5 to 4 mg.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2109-12-30**] 09:00 PM
   Ampicillin - [**2109-12-31**] 04:00 AM
   Vancomycin - [**2109-12-31**] 05:45 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-12-30**] 05:30 PM
   Metoprolol - [**2109-12-30**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-12-31**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 98 (88 - 136) bpm
   BP: 135/59(78) {103/42(63) - 160/92(109)} mmHg
   RR: 17 (7 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,496 mL
                                                                    830 mL
   PO:
             TF:
   IVF:
                                                                  2,376 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                    320 mL
   Urine:
                                                                  3,900 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,404 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (322 - 458) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   582 K/uL
   7.9 g/dL
   105 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   7 mg/dL
   98 mEq/L
   138 mEq/L
   25.7 %
   9.1 K/uL
        [image002.jpg]
                            [**2109-12-25**]  01:26 PM
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
                            [**2109-12-29**]  03:29 AM
                            [**2109-12-30**]  05:07 AM
                            [**2109-12-31**]  04:40 AM
   WBC
   12.8
   11.4
   9.9
   11.0
   10.0
   9.1
   Hct
   30.5
   25.5
   26.7
   25.6
   25.6
   25.3
   25.7
   Plt
   288
   291
   351
   [**Telephone/Fax (3) 10116**]
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.4
   0.4
   TCO2
   23
   30
   Glucose
   123
   126
   109
   106
   130
   113
   105
   Other labs: PT / PTT / INR:36.3/35.0/3.7, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:[**10-22**], Alk Phos / T Bili:63/0.5,
   Amylase / Lipase:277/74, Differential-Neuts:74.0 %, Lymph:20.4 %,
   Mono:3.2 %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Imaging: [**2109-12-30**] CXR AP (prelim): OG tube coiled in the stomach. Right
   subclavian venous catheter terminating in mid SVC and ET tube 3.3 cm
   above the carina. Clear lungs without acute cardiopulmonary process.
   ([**First Name8 (NamePattern2) 10036**] [**Doctor Last Name 10119**] [**Numeric Identifier 10120**])
   Microbiology: R IJ CVL: CULTURE (Final [**2109-12-29**]):    No significant
   growth.
   [**2109-12-29**]:   SPUTUM
    GRAM STAIN (Final [**2109-12-29**]):
         <10 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
   Assessment and Plan
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema and found to have meningitis complicated by respiratory failure,
   possible VAP and DVT
   # Hypoxemia/Respiratory status: Hypoxemic after BAL. However, sats now
   improved.  Likely related to some degree of fluid or possible
   infection.
   - lasix 20 mg Ivx1 with goal I/o negative 1 L
   - PS ventilation, wean PEEP as tolerated, goal <10 today
   - Antibiotics as noted below
   - SBT with possible extubation to CPAP
   # Fever:  Now relatively afebrile x 24 hours after pulling RIJ central
   line and broadening antibiotics to cefepime. CT Head/spine without
   extra focus of infection. CT chest showing PNA.  Could be related to
   new pancreatitis.
   - Continue Cefepime for VAP coverage (8 day course)
   - follow up minibal results
   - hold vanc dose, check trough tonight
   - Appreciate ID input
   - Continue Vanco/ampillin as noted below
   # Abd.pain/pancreatitis:  Improving after holding TF yesterday. Only
   possible drug cause is lasix.
   -NPO
   -Pain control with fentanyl
   -trend lipase
   #  Meningitis: Mental status continues to improve. Febrile and
   leukocoytosis may be related to lung source vs CNS source. Head CT with
   contrast from OSH not sufficient to assess for subtle intracranial
   infection/leptomeningial disease.  Continuous EEG showed possible
   seizure activity and completed today. Dilantin level approaching
   therapeutic with increase dose. Changed phenytoin to fosphenytoin. CT
   head showed slight improvement in edema
   - HOB elevation
   - no need for further hypertonic to keep Na >140
   - Vanc/Cefepime/ampicillin x 2 weeks total
   - follow CSF/blood cultures/sputum cultures
   - f/u Neuro and ID recs
   - neuro checks q2 H
   - Change fosphenytoin to PO dilantin
   # Constipation: Uptitrated bowel regimen
   # DVT: LLE DVT on LENI [**12-25**]. Was on heparin drip with approval from
   Neurosurgery with goal PTT 60
80. Started low dose coumadin given
   patient on several antibiotics.
   - Coumadin 5 mg daily
   # Hypertension: Blood pressure much better controlled over last 24
   hours after starting betablocker. Pattern consistent with repiratory
   issues cause hypertension, rather than vice versa. Restarted diltiazem
   yesterday. Home dose of atenolol 25 mg daily, and she may be having
   some beta blocker withdrawal given htn/tachycardia.
   - Continue metoprolol and diltiazem. Will restart home atenolol once
   more stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2109-12-30**] 05:00 PM
   Prophylaxis:
   DVT:  (INR 3.7) coumadin
   Stress ulcer: famotidine q12hrs
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-01-01 07:17:00 Physician Resident Progress Note
Chief Complaint: Meningitis
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-12-31**] 11:15 AM
 NON-INVASIVE VENTILATION - START [**2109-12-31**] 11:15 AM
 BLOOD CULTURED - At [**2109-12-31**] 01:05 PM
   Blood cultures times 2 sets.
 URINE CULTURE - At [**2109-12-31**] 01:05 PM
   -extubated to CPAP 10 x 2 hours, then weaned to nasal cannula
   -patient taking sips of liquid
   -vanc level changed to 5 a.m. [**1-1**] due to vanc scheduling issues
   -PT reconsulted
   -T 101 in afternoon [**12-31**]- blood and urine cultures sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-31**] 10:00 PM
   Ampicillin - [**2110-1-1**] 04:03 AM
   Cefipime - [**2110-1-1**] 04:03 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-12-31**] 08:00 AM
   Fentanyl - [**2109-12-31**] 08:32 AM
   Furosemide (Lasix) - [**2109-12-31**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   + Nonproductive cough. Denies Cp, SOB, N/v, Abd pain.
   Flowsheet Data as of  [**2110-1-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 106 (95 - 112) bpm
   BP: 124/68(81) {96/52(75) - 164/99(110)} mmHg
   RR: 30 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,978 mL
                                                                    403 mL
   PO:
                                                                    180 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,578 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                  1,220 mL
   Urine:
                                                                  3,100 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,122 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP
   Vt (Spontaneous): 471 (406 - 471) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 11.5 L/min
   Physical Examination
   Gen: NAD, A and Ox3, Lying comfortable in bed
   HEENT: PERRL, EOMI, PERRL
   CV: RRR, no m/r/g
   Chest: CTA bilaterally in anterior lung fields
   Ext: 1+ pedal edema, L > R, WWP
   Neuro: MAEs, Cn ii-xii intact, sensation intact to gross touch
   Labs / Radiology
   632 K/uL
   8.4 g/dL
   102 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.3 mEq/L
   3 mg/dL
   101 mEq/L
   140 mEq/L
   27.9 %
   9.1 K/uL
        [image002.jpg]
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
                            [**2109-12-29**]  03:29 AM
                            [**2109-12-30**]  05:07 AM
                            [**2109-12-31**]  04:40 AM
                            [**2110-1-1**]  04:34 AM
   WBC
   12.8
   11.4
   9.9
   11.0
   10.0
   9.1
   9.1
   Hct
   30.5
   25.5
   26.7
   25.6
   25.6
   25.3
   25.7
   27.9
   Plt
   288
   291
   351
   [**Telephone/Fax (3) 10116**]
   632
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.4
   0.4
   0.3
   TCO2
   30
   Glucose
   123
   126
   109
   106
   130
   113
   105
   102
   Other labs: PT / PTT / INR:42.9/35.0/4.6, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:[**10-22**], Alk Phos / T Bili:63/0.5,
   Amylase / Lipase:277/74, Differential-Neuts:74.0 %, Lymph:20.4 %,
   Mono:3.2 %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Vanco 15.2
   INR 4.6
   UA clear
   Micro Blood 12/29 ngtd, Urine [**12-31**] ngtd, Sputu, [**12-29**] poor sample
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
   53 yo F w/ HTN p/w fever altered mental status and diffuse cerebral
   edema and found to have meningitis complicated by respiratory failure,
   possible VAP and DVT.
   # Hypoxemia/Respiratory status: On mimimal supplemental oxygen post
   extubation yesterday. Still fluid overloaded on exam and would likely
   benefit from continued diuresis
   -Autodiuresing with goal I/O negative 1-2 L, with plan to repeat lasix
   20 iv x1 if not reaching goal
   # Fever:  Febrile again yesterday in the periextubation period. No
   obvious sources and cultures ngtd. Could be medication related given
   betalactam use. RUQ u/s negative. Plan to continue abx for current
   infections.
   -cefepime/vanco for VAP for 8 day course day [**7-10**] today
   - f/u cx data
   -vanc/cefepime/amp for meningitis completes today day 14 of 14. Will
   d/c Amp today.
   # Abd.pain/pancreatitis:  Pain improved. RUQ u/s negative.
   -NPO, monitor clinically and advance diet as tolerated
   # Meningitis: Mental status normal  now. No blood reacted.
   - Vanc/Cefepime/ampicillin x 2 weeks total completes today.
   -dilantin level therapeutic- continue dilantin at current dose 400mg po
   tid until Neurology outpatient followup. Will add on albumin to adjust
   level. Currently borderline supratherapeutic but need to adjust.
   # DVT: LLE DVT on LENI [**12-25**]. Was on heparin drip with approval from
   Neurosurgery and now supratherapeutic on coumadin.
   -INR supratherapeutic, hold coumadin today
   - Since DVT was provoked would likely treat 3-6 months and not test for
   hypercoagulability
   # Hypertension: Blood pressure much better controlled well controlled
   on betablocker and diltiazem.
   - Change metoprolol to home dose atenolol 25 mg daily and change
   diltiazem to 120 CR from 30 QID with plan to titrate as needed on the
   medicine floor
   ICU Care
   Nutrition:
   Glycemic Control: RISS
   Lines:
   PICC Line - [**2109-12-30**] 05:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: ppi
   VAP:  extubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to the floor today

2110-01-01 07:46:00 Physician Attending Progress Note
Chief Complaint: 53 yo woman with history of morbid obesity sp bypass
   '[**00**], admitted [**2109-12-18**] with meningitis (no organism identified) with
   cerebral edema requiring intracranial pressure monitoring and status
   epilepticus.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-12-31**] 11:15 AM
 NON-INVASIVE VENTILATION - START [**2109-12-31**] 11:15 AM
 BLOOD CULTURED - At [**2109-12-31**] 01:05 PM
   Blood cultures times 2 sets.
 URINE CULTURE - At [**2109-12-31**] 01:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2109-12-31**] 10:00 PM
   Ampicillin - [**2110-1-1**] 04:03 AM
   Cefipime - [**2110-1-1**] 04:03 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-12-31**] 08:00 AM
   Fentanyl - [**2109-12-31**] 08:32 AM
   Furosemide (Lasix) - [**2109-12-31**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-1-1**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 106 (95 - 112) bpm
   BP: 124/68(81) {96/52(75) - 164/99(110)} mmHg
   RR: 30 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,978 mL
                                                                    408 mL
   PO:
                                                                    180 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,578 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                  1,220 mL
   Urine:
                                                                  3,100 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,122 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP
   Vt (Spontaneous): 471 (406 - 471) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   632 K/uL
   102 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.3 mEq/L
   3 mg/dL
   101 mEq/L
   140 mEq/L
   27.9 %
   9.1 K/uL
        [image002.jpg]
                            [**2109-12-26**]  04:08 AM
                            [**2109-12-26**]  05:25 AM
                            [**2109-12-26**]  03:23 PM
                            [**2109-12-27**]  05:09 AM
                            [**2109-12-27**]  03:11 PM
                            [**2109-12-28**]  02:48 AM
                            [**2109-12-29**]  03:29 AM
                            [**2109-12-30**]  05:07 AM
                            [**2109-12-31**]  04:40 AM
                            [**2110-1-1**]  04:34 AM
   WBC
   12.8
   11.4
   9.9
   11.0
   10.0
   9.1
   9.1
   Hct
   30.5
   25.5
   26.7
   25.6
   25.6
   25.3
   25.7
   27.9
   Plt
   288
   291
   351
   [**Telephone/Fax (3) 10116**]
   632
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.4
   0.4
   0.3
   TCO2
   30
   Glucose
   123
   126
   109
   106
   130
   113
   105
   102
   Other labs: PT / PTT / INR:42.9/35.0/4.6, CK / CKMB /
   Troponin-T:333/21/1.00, ALT / AST:[**10-22**], Alk Phos / T Bili:63/0.5,
   Amylase / Lipase:277/74, Differential-Neuts:74.0 %, Lymph:20.4 %,
   Mono:3.2 %, Eos:2.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:307 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   -continues on coumadin but INR supratherapeutic, dose decreased from 5
   to 4mg daily and will hold dose tonight
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -unclear etiology at this point, CT C/A/P/head unremarkable
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -initially intubated for airway protection and subsequently for a VAP,
   now resolved
   -on CPAP 10 able to pull in TV of 1.11L.
   -once patient in an upright position will stop all sedation and
   extubated to CPAP 10
   -continue diuresis for goal net out 1L daily while monitoring BUN/Cr,
   stable for now
   -empiric treatment for VAP with cefepime although sputum cultures with
   just oral flora. Decreasing secretions, only suctioned once this
   morning. Mini BAL [**12-26**] with no growth
 ENCEPHALITIS
   -meningitis being treated with vancomycin, cefepime, and ampicillin to
   finish 14 day course tomorrow
   -vancomycin dose adjusted from 1500mg q8hr to 1250 q8hr
   -PICC line placed
Status epilepticus now resolved
   -no longer needs frequent neuro checks
   -continue on dilantin
 HYPERTENSION: continue diltiazem and metoprolol for blood pressure
   control
elevated amylase and lipase: now trending down. RUQ US unremarkable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2109-12-30**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: